2179-12-15 08:20:00 Physician Attending Progress Note
Chief Complaint: hypoxemia and shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo woman with hypertension and active tobacco use ([**11-27**] ppd) who
   presented to her PCP [**Name Initial (PRE) **] 3 days of flu-like symptoms and loose stools
   on [**12-14**].  Found to be hypoxemic and hypotensive to 76/45, intubated for
   hypoxemic and hypercarbic respiratory failure.  With persistent
   hypoxemia and acidosis despite paralytics and maximum ventilatory
   support, with CXR showing multi-focal infiltrate.  Also with acute
   renal failure with Cr 4.5.  Was on up to maximum dose levophed,
   dopamine, and phenylephrine drips for hypertension.  On transfer to
   MICU on FiO2 100% with PEEP 15 with paralytics.  Received total of 9L
   normal saline resuscitation.
   In MICU:
   -femoral a-line placed.  Initial ABG 6.9/77/67/HCO3 17.  Bicarbonate
   drip started.
   -pressors weaned to vasopressin alone
   -plateau pressures 38.
   -flagyl initiated for empiric coverage of C. difficile given history of
   loose stools
   -tamiflu initiated due to concern for H1N1
   -blood, urine, sputum, and stool C. difficile sent
   24 Hour Events:
 MULTI LUMEN - START [**2179-12-15**] 04:02 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2179-12-15**] 05:30 AM
   Ceftriaxone - [**2179-12-15**] 06:09 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Cisatracurium - 0.05 mg/Kg/hour
   Other ICU medications:
   Fentanyl - [**2179-12-15**] 03:25 AM
   Midazolam (Versed) - [**2179-12-15**] 03:30 AM
   Vecuronium - [**2179-12-15**] 03:47 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2179-12-15**] 04:20 AM
   Other medications:
   Chlorhexadine mouth wash
   Tamiflu 75mg po daily
   Levaquin 750 IV q48
   Flagyl
   Ceftriaxone 1gm IV q24
   Vancomycin 1gm IV q24
   Famotidine
   Bicarbonate drip@100cc/hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-15**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 100 (99 - 111) bpm
   BP: 99/57(60) {99/41(58) - 119/61(74)} mmHg
   RR: 34 (6 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 16 (16 - 47)mmHg
   Total In:
                                                                 11,389 mL
   PO:
   TF:
   IVF:
                                                                  1,239 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,140 mL
   Urine:
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 10,249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 33 cmH2O
   SpO2: 99%
   ABG: 7.16/56/141/18/-9
   Ve: 12.3 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: intubated, sedated, paralyzed
   Eyes / Conjunctiva: pupils equal and round
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: bronchial breath sounds anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: none, Left lower extremity
   edema: none.  Extremities warm to touch
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   295 K/uL
   132 mg/dL
   1.8 mg/dL
   18 mEq/L
   3.5 mEq/L
   67 mg/dL
   114 mEq/L
   144 mEq/L
   29.8 %
   32.0 K/uL
        [image002.jpg]
                             [**2179-12-15**]  03:26 AM
                             [**2179-12-15**]  03:38 AM
                             [**2179-12-15**]  04:26 AM
                             [**2179-12-15**]  05:19 AM
                             [**2179-12-15**]  05:24 AM
                             [**2179-12-15**]  07:16 AM
                             [**2179-12-15**]  07:46 AM
   WBC
   42.8
   32.0
   Hct
   31.2
   29.8
   Plt
   338
   295
   Cr
   2.0
   1.8
   TCO2
   17
   22
   20
   21
   21
   Glucose
   95
   132
   Other labs: PT / PTT / INR:13.2/31.1/1.1, Lactic Acid:1.5 mmol/L,
   Ca++:6.2 mg/dL, Mg++:1.6 mg/dL, PO4:5.4 mg/dL
   Lactate peaked at 1.9
   CXR: multifocal lobar consolidation R>L
   CVO2: 83%
   ABG: 7.16/56/141 (100% FiO2)
   Assessment and Plan
   ARDS
   -unclear trigger, community acquired pneumonia (including legionella as
   a consideration) vs influenza (seasonal vs H1N1)
   -esophageal balloon placed.  On VC 360/35/18/0.8, trans-pulmonary
   pressure and end expiration 4 cm H20, plateau now 30.  Will keep her on
   current ventilator settings but titrate down FiO2 to goal PaO2 >55.
   Currently at 6cc/kg but unable to decrease tidal volume further given
   persistent acidosis, and at RR 34 has auto-PEEP 1
   -continue bicarbonate drip for now
   -aim to keep fluid balance net even
   -current on broad spectrum antibiotic coverage for CAP with vancomycin,
   ceftriaxone, and levofloxacin.  Will increase antibiotic doses for
   normal GFR given Cr 4 to 2 in 24 hours
   -tamiflu dose titrate up to 150mg [**Hospital1 **]
   -has nasal respiratory viral panel pending, would send deep tracheal
   aspirate for respiratory viral panel and to state lab for H1N1 PCR
   -send sputum also for legionella culture
   -will re-evaluate need for paralytics in PM
   Shock, likely septic given CVO2 83%
   -continue vasopressin for now
   -adequately volume repleted given lack of respiratory variation on
   a-line, would not give additional volume for now
   Acute renal failure now improving with volume resuscitation
   -urine output 1100cc over 4 hours
   -dose antibiotics as above
   Diarrhea
   -empiric flagyl until C. difficile back, will switch to po formulation
   Non gap acidosis
   -given normal lactate and hyperchloremia this is likely related to
   normal saline resuscitation
   -bicarbonate drip for now but will wean to off
   ICU Care
   Nutrition: start tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-12-15**] 04:00 AM
   18 Gauge - [**2179-12-15**] 04:01 AM
   Multi Lumen - [**2179-12-15**] 04:02 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: famotidine
   VAP: chlorhexadine mouth wash
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifcations/emphasis:
   58 year old female with longstanding smoking history who presented with
   cough, fevers, shortness of breath and ultimately progressed to
   respiratory failure and shock.  She was intubated in the ED with
   bilateral infiltrates with air bronchograms seen on radiograph.  Of
   note, prior to intubation, the patient did not have any non-respiratory
   related complaints, had no abdominal pain and had a benign abdominal
   exam.  She was transferred to the ICU on multiple pressors and
   ventilatory support.
   Overnight, patient was given broad-spectrum antibiotics, IVFs,
   vasopressors, central and arterial lines were placed, was paralyzed and
   Fio2 of 1.0 PEEP of 24.  She ultimately came down off her pressors with
   the exception of vasopressin and her PEEP was decreased as well as
   oxygenation markedly improved.  She remains persistently febrile.
   T 39  P 90  BP 100/40  RR 32  Sat: 95% on Fio2 1.0  PEEP 18
   Intubated, sedated, paralyzed
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema or cyanosis
   Labs: Reviewed and as above
   CXR: bilateral infiltrates with airbronchograms.  ETT high
 pushed
   down
   Assessment:
   1)       Acute Respiratory Failure/ARDS likely secondary to Pneumonia
   2)       Pneumonia
   3)       Septic Shock
   4)       Acute Renal Failure
   Discussion: Overall, patient picture consistent with severe pneumonia
   with associated ARDS.  Her prodrome was completely respiratory-related
   thus making a secondary source of ARDS (ie., abdominal source for
   example) unlikely.  Additionally, she is currently too unstable for
   transport to CT scan for any further imaging.  From a respiratory
   standpoint, she has had some marginal improvement overnight and her
   oxygenation is improving.  Her vasopressor requirement is also
   improving and her signs of perfusion (urine output and lactate) are
   good.
   Plan:
   1-       Continue Broad-spectrum antibiotics covering for community
   acquired pneumonia plus MRSA-pneumonia
   2-       Anti-viral therapy in case of flu
   3-       Pan-culture results pending and will follow
   4-       Maintain low tidal volume ventilation with goal PlatPres < 30
   5-       Will hook up vigileo for CO/Scvo2 monitoring and continue to
   monitor endpoints of resuscitation including lactate/urine output which
   currently are adequate
 she appears to have adequate preload based on
   the total volume given plus perfusion endpoints plus bedside ECHO
   showing IVC that does not collapse and appears distended.
   6-       Formal bedside ECHO (bedside ECHO performed by me revealed
   normal function and no effusion)
   7-       Maintain PEEP at current level -> if oxygenation improves then
   will decrease slowly.  Esophageal balloon being placed
   8-       If persistent hypotension, will check cortisol level and
   consider corticosteroids
   Time Spent: 95 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2179-12-15**] 05:57 PM ------

2179-12-16 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - micro will send h1n1 pcr to state lab, can page micro resident for
   status, [**Pager number 11091**]
   - able to wean PEEP down to 10 but then bumped up back to 16 prior to
   traveling for CT torso b/c hypoxic with turns
   - CT torso prelim: gall stone at neck of gall bladder, gall bladder
   distended, pericholecystic fluid, trace stranding.
   - changed ceftriaxone to zosyn based on CT and put her in for RUQ US
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]: consider cryptogenic organizing pna, eosinophilic pna.
   [**First Name8 (NamePattern2) **] [**Last Name (un) **] stim and consider bronch.
   - fam meeting at 9 p.m. to update them
   - stopped paralytics after CT
   - lost fem line and re-sited on left
   - got boluses for hypotension, weaning peep
   Allergies:
   Peanut
   Anaphylaxis;
   Peanut
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2179-12-15**] 05:30 AM
   Ceftriaxone - [**2179-12-15**] 10:18 AM
   Levofloxacin - [**2179-12-15**] 08:00 PM
   Piperacillin - [**2179-12-16**] 12:12 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-12-15**] 06:40 PM
   Fentanyl - [**2179-12-15**] 06:40 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-16**] 01:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-16**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 39
C (102.2
   Tcurrent: 38.1
C (100.6
   HR: 71 (71 - 114) bpm
   BP: 110/59(77) {105/53(72) - 143/74(101)} mmHg
   RR: 34 (17 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 9 (5 - 18)mmHg
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                 15,101 mL
                                                                  1,224 mL
   PO:
   TF:
   IVF:
                                                                  3,901 mL
                                                                    984 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                  1,000 mL
   Urine:
                                                                  3,440 mL
                                                                    500 mL
   NG:
                                                                     50 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 11,611 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 36 cmH2O/mL
   SpO2: 91%
   ABG: 7.36/43/165/21/-1
   Ve: 13.6 L/min
   PaO2 / FiO2: 275
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   8.4 g/dL
   136 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.6 mEq/L
   48 mg/dL
   112 mEq/L
   144 mEq/L
   24.5 %
   38.3 K/uL
        [image002.jpg]
                             [**2179-12-15**]  07:46 AM
                             [**2179-12-15**]  09:23 AM
                             [**2179-12-15**]  11:00 AM
                             [**2179-12-15**]  12:07 PM
                             [**2179-12-15**]  01:22 PM
                             [**2179-12-15**]  05:16 PM
                             [**2179-12-15**]  05:25 PM
                             [**2179-12-15**]  09:00 PM
                             [**2179-12-16**]  04:01 AM
                             [**2179-12-16**]  04:22 AM
   WBC
   34.9
   38.3
   Hct
   27.4
   24.5
   Plt
   297
   273
   Cr
   1.5
   1.4
   1.0
   TCO2
   21
   21
   21
   20
   21
   22
   25
   Glucose
   187
   159
   136
   Other labs: PT / PTT / INR:14.0/30.7/1.2, ALT / AST:36/56, Alk Phos / T
   Bili:160/0.4, Differential-Neuts:93.0 %, Band:1.0 %, Lymph:5.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:1.9 g/dL,
   Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: U/S:  1. Dense parenchymal multifocal airspace consolidation,
   most compatible with multifocal pneumonia.
   2. Distended gallbladder with suggestion of pericholecystic fluid and
   gallbladder stone seen in the region of the neck. Recommend clinical
   correlation, and if further evaluation for cholecystitis is of concern,
   right
   upper quadrant ultrasound can be performed.
   3. No discrete fluid collections that would be concerning for abscess
   formation.
   4. Colon is suboptimally distended with suggestion of bowel wall
   thickening
   seen in several regions of the colon, though is more likely secondary
   to
   collapsed bowel from underdistension as no associated mesenteric
   stranding to suggest acute colitis. Clinical correlation is
   recommended.
   .
   CXR: Preliminary Report !! WET READ !!
   ETT now 4.5 above level of the carina, otherwise no significant
   interval
   change in diffuse airspace consolidation.
   Microbiology: Sputum:
   2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
    1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
   ..
   DFA:
    DIRECT INFLUENZA A ANTIGEN TEST (Final [**2179-12-15**]):
         TEST CANCELLED, PATIENT CREDITED.
         Refer to Rapid Respiratory Viral Antigen Test for further
         information.
      DIRECT INFLUENZA B ANTIGEN TEST (Final [**2179-12-15**]):
         TEST CANCELLED, PATIENT CREDITED.
         Refer to Rapid Respiratory Viral Antigen Test for further
         information.
      Respiratory Viral Antigen Screen (Final [**2179-12-15**]):
         Negative for Respiratory Viral Antigen.
         Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A,
   B,
         and RSV by immunofluorescence.
         Refer to respiratory viral culture for further information.
   .
   .
   NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
   .
   .
   BCx:  NGTD
   Assessment and Plan
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   .
   # Hypoxia/ARDS:  CXR with multifocal opacities, patient with severe
   hypoxia refractory to initial ventilator settings.  Clinical story,
   CXR, and oxygenation c/w ARDS.  Concerning precipitating triggers
   include bacterial vs. viral pneumonia.  With Gall bladder distension,
   also considering cholycystitis as ARDS precipitator, although less
   likely. Patient p/w fever, cough, marked leukocytosis with bandemia.
   Oxygenation improving from admission, and able to back down on PEEP and
   FIO2.
   - ween PEEP and FiO2 as tolerated.
   - Sputum cultures w/ GPCs, will f/u s/s
   - r/o flu, empiric tamiflu rx for now.  Will need to resend flu DFA
   - cont empiric coverage with [**Month/Day/Year **]/ /levoflox for severe CAP, narrow
   antibiotics from zosyn to ctx
   - patient's current TV c/w ARDS net.
   .
   # Sepsis:  Patient with tachycardia, tachypnea, leukocytosis and
   bandemia.  CXR with multifocal pneumonia, and now health care risk
   factors.
   - cont levo/[**Last Name (LF) **], [**First Name3 (LF) 124**] switch zosyn back to ctx
   - send sputum cx
   - cont tamiflu
   - nasal swab repeat
   - will stop empiric flagyl for cdiff once stool neg x 1, as no colitis
   on CT.  Send stool cultures.
   .
   # Gallstone:  Distended gallbladder with suggestion of pericholecystic
   fluid and gallbladder stone seen in the region of the neck seen on CT.
   No significant abnormalities of LFTs and no symptoms prior to suggest
   cholysystitis.
   - f/u RUQ u/s
   - will stop zosyn.
   .
   #[**Last Name (un) **]:  Unknown baseline, but Cr at presentation 4.5, now down to 1.0.
   Likely pre-renal hypoperfusion  as improved with improved BP and IVF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-15**] 04:02 AM
   Arterial Line - [**2179-12-15**] 05:00 PM
   20 Gauge - [**2179-12-15**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2179-12-17 07:40:00 Physician Attending Progress Note
Chief Complaint: ARDS and septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo woman with active tobacco use and HTN, presenting with flu-like
   symptoms and diarrhea.  Intubated for ARDS with initial need for
   paralytics and maximum ventilatory support, still pressor dependent.
   24 Hour Events:
   -Surgery consulted regarding mild dilation of CBD, they did not feel
   that a cholecystostomy tube was indicated at this point
   -sedation weaned from fentanyl 150mcg to 75 mcg, versed from 5 to 1mg
   but still not breathing over the ventilator when RR dropped to 15.
   Episodes of agitation with biting down on ETT with hypoxemia requiring
   intermittent boluses of fentanyl
   -levophed continues to be titrated down
   -still awaiting speciation of positive blood culture at OSH
   -Hct down to 20.7
   Allergies:
   Peanut
   Anaphylaxis;
   Peanut
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2179-12-15**] 05:30 AM
   Piperacillin - [**2179-12-16**] 12:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-12-16**] 10:20 AM
   Ceftriaxone - [**2179-12-16**] 12:00 PM
   Vancomycin - [**2179-12-16**] 08:00 PM
   Levofloxacin - [**2179-12-16**] 09:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2179-12-16**] 08:46 AM
   Midazolam (Versed) - [**2179-12-16**] 08:47 AM
   Heparin Sodium (Prophylaxis) - [**2179-12-17**] 01:00 AM
   Other medications:
   Acetaminophen prn
   Colace
   Famotidine 20mg q24hr
   Levofloxacin 750mg IV daily
   Metronidazole 500mg q8hr
   Tamiflu 150mg [**Hospital1 **]
   Vancomycin 1gm IV q24hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-17**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.2
C (98.9
   HR: 62 (60 - 78) bpm
   BP: 81/37(51) {81/37(51) - 137/66(90)} mmHg
   RR: 32 (23 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 15 (8 - 15)mmHg
   Total In:
                                                                  2,762 mL
                                                                    347 mL
   PO:
   TF:
                                                                    122 mL
   IVF:
                                                                  2,402 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  2,865 mL
                                                                    240 mL
   Urine:
                                                                  1,815 mL
                                                                    240 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 32.7 cmH2O/mL
   SpO2: 93%
   ABG: 7.41/38/95.[**Numeric Identifier 253**]/22/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace.  Cool.  Bilateral groins without ecchymoses
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   239 K/uL
   115 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   43 mg/dL
   115 mEq/L
   144 mEq/L
   20.7 %
   25.1 K/uL
        [image002.jpg]
                             [**2179-12-15**]  09:00 PM
                             [**2179-12-16**]  04:01 AM
                             [**2179-12-16**]  04:22 AM
                             [**2179-12-16**]  08:29 AM
                             [**2179-12-16**]  10:36 AM
                             [**2179-12-16**]  01:19 PM
                             [**2179-12-16**]  04:06 PM
                             [**2179-12-16**]  04:28 PM
                             [**2179-12-17**]  03:53 AM
                             [**2179-12-17**]  06:07 AM
   WBC
   38.3
   25.1
   Hct
   24.5
   20.7
   Plt
   273
   239
   Cr
   1.0
   1.0
   0.9
   TCO2
   22
   25
   23
   24
   24
   24
   25
   Glucose
   136
   111
   115
   Other labs: PT / PTT / INR:13.5/30.7/1.2, ALT / AST:29/58, Alk Phos / T
   Bili:160/0.6, Amylase / Lipase:/12, Differential-Neuts:93.0 %, Band:1.0
   %, Lymph:5.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.0 g/dL, LDH:288 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   7.47/34/108 (TV 450 RR 25 PEEP 8 FiO2 50%)
   AM cortisol 38
   Vancomycin level 16.8
   Stool: negative C. difficile x1
   Assessment and Plan
   ARDS due to likely bacterial pneumonia, cannot rule out influenza
   -await speciation of GPC in pairs on sputum culture but suspect alpha
   hemolytic strep or strep pneumoniae
   -continue famiflu while awaiting H1N1 PCR from state lab
   -titrate FiO2 to 40%, decrease RR to 20 and repeat ABG.  Transition to
   pressure support ventilation
   -continue empiric coverage for severe CAP with ceftriaxone, levaquin,
   and vancomycin.  Would dose vancomycin to normal renal
   function-followup blood and sputum cultures
   -may need to transition versed to propofol as patient either agitated
   and dysynchronous or apneic
   Anemia
   -transfuse 1U PRBC
   -check stool guiac
   -check hemolysis labs
   -q6hr CBC
   -some concern for RP bleed given bilateral femoral a-line attempts
   Vasopressor dependent shock
   -levophed being weaned down, still on vasopressin.  Will minimize
   sedation as tolerated
   -repeat CVO2 and lactate
   Acute renal failure now normalized with volume resuscitation
   -dose antibiotics as above
   Pericholecystic fluid
   -continue to trend alkaline phosphatase
   -RUQ ultrasound done with mild CBD dilatation
   -surgery following, does not think cholecystostomy tube indicated at
   this time
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2179-12-17**] 01:30 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-15**] 04:02 AM
   Arterial Line - [**2179-12-15**] 05:00 PM
   20 Gauge - [**2179-12-16**] 05:56 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: famotidine
   VAP: chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifcations/emphasis:
   Overnight, hematocrit dropped to 20%.  No clear source of bleeding.
   Sedation weaned as was vasopressors but still remains on low dose of
   levophed and vasopressin.  Urine output remains good with normal
   lacate.
   Vitals as above
   On exam, sedated, intubated
   Chest: CTA bilaterally
currently synchronus with ventilator
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Labs as above plus strep pneumonia from blood cultures at OSH
   Assessment:
   1)       Respiratory Failure secondary to pneumonia
   2)       Septic shock secondary to strep pneumonia
   3)       Acute renal failure
 improved
   4)       Anemia
 likely bleeding though could have hemolysis.
   Plan:
   1)       Transfuse 2 units of blood
   2)       Rectal -> stools for blood
   3)       Hemolysis labs
   4)       If hematocrit does not respond appropriately, may explore
   other etiologies such as RP bleed
   5)       Decrease Fio2/PEEP
   6)       Wean levophed as tolerated
   Time Spent: 35 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2179-12-17**] 11:42 ------

2179-12-17 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- spiked temp to 102 around 8:30 PM- pan cultures
   -- dropped SBPs to 70-80s with turning, and febrile.  given 1L NS and
   also written for albumin 25 gm x 1
   -- started on vanco/meropenem for broad spectrum coverage
   -- received total of 2.5 liters overnight for bolus; SBP in low 90s
   -- a-line placed
   -- second IV placed; may need central line
   -- IP will discuss whether to redo trach, but may need to leave it to
   surgery since surgery placed in initially
   -- neuro felt low likelihood for LP, but should consider; given fevers,
   may need it anyway
   -- hemeonc performed BM biopsy
   -- ID recommended stopping abx; consider TTP and hemophagocytic
   syndrome
   Allergies:
   Peanut
   Anaphylaxis;
   Peanut
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2179-12-15**] 05:30 AM
   Piperacillin - [**2179-12-16**] 12:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-12-16**] 10:20 AM
   Ceftriaxone - [**2179-12-16**] 12:00 PM
   Vancomycin - [**2179-12-16**] 08:00 PM
   Levofloxacin - [**2179-12-16**] 09:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2179-12-16**] 08:46 AM
   Midazolam (Versed) - [**2179-12-16**] 08:47 AM
   Heparin Sodium (Prophylaxis) - [**2179-12-17**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-17**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.2
C (98.9
   HR: 62 (60 - 78) bpm
   BP: 81/37(51) {81/37(51) - 137/66(90)} mmHg
   RR: 32 (23 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 15 (8 - 15)mmHg
   Total In:
                                                                  2,762 mL
                                                                    356 mL
   PO:
   TF:
                                                                    127 mL
   IVF:
                                                                  2,402 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  2,865 mL
                                                                    240 mL
   Urine:
                                                                  1,815 mL
                                                                    240 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                    116 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 32.7 cmH2O/mL
   SpO2: 93%
   ABG: 7.41/38/95.[**Numeric Identifier 253**]/22/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 192
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   6.9 g/dL
   115 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   43 mg/dL
   115 mEq/L
   144 mEq/L
   20.7 %
   25.1 K/uL
        [image002.jpg]
                             [**2179-12-15**]  09:00 PM
                             [**2179-12-16**]  04:01 AM
                             [**2179-12-16**]  04:22 AM
                             [**2179-12-16**]  08:29 AM
                             [**2179-12-16**]  10:36 AM
                             [**2179-12-16**]  01:19 PM
                             [**2179-12-16**]  04:06 PM
                             [**2179-12-16**]  04:28 PM
                             [**2179-12-17**]  03:53 AM
                             [**2179-12-17**]  06:07 AM
   WBC
   38.3
   25.1
   Hct
   24.5
   20.7
   Plt
   273
   239
   Cr
   1.0
   1.0
   0.9
   TCO2
   22
   25
   23
   24
   24
   24
   25
   Glucose
   136
   111
   115
   Other labs: PT / PTT / INR:13.5/30.7/1.2, ALT / AST:29/58, Alk Phos / T
   Bili:160/0.6, Amylase / Lipase:/12, Differential-Neuts:93.0 %, Band:1.0
   %, Lymph:5.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.0 g/dL, LDH:288 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Imaging: RUQ u/s:
   1. Gallbladder stone in the gallbladder neck without evidence of
   obstruction
   or cholecystitis.
   2. The common bile duct is dilated measuring up to 8 mm. The pancreas
   is not visualized secondary to overlying bowel gas. A MRCP is
   recommended for further evaluation of the common bile duct dilatation
   to rule out distal
   common bile duct stone or pancreatic mass.
   Microbiology: All Cultures NGTD
   .
   Feces negative for C.difficile toxin A & B by EIA.
   Assessment and Plan
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   .
   # Hypoxia/ARDS:  CXR with multifocal opacities, patient with severe
   hypoxia refractory to initial ventilator settings.  Clinical story,
   CXR, and oxygenation c/w ARDS.  Concerning precipitating triggers
   include bacterial vs. viral pneumonia.  With Gall bladder distension,
   also considering cholycystitis as ARDS precipitator, although less
   likely. Patient p/w fever, cough, marked leukocytosis with bandemia.
   Oxygenation improving from admission, and able to back down on PEEP and
   FIO2.
   - ween PEEP and FiO2 as tolerated.
   - Sputum cultures w/ GPCs, will f/u s/s
   - r/o flu, empiric tamiflu rx for now.  Will need to resend flu DFA
   - cont empiric coverage with vanc/CTX/levo, narrow pending culture
   sensitivities
   - will liberalize from ARDSNET, and increase TV and [**Month (only) 453**] RR.  Hopefully
   will allow reduction of sedation as well.
   .
   # Sepsis:  Patient with tachycardia, tachypnea, leukocytosis and
   bandemia.  CXR with multifocal pneumonia, and now health care risk
   factors.
   - cont levo/vanc/CTX
   - send sputum cx
   - cont tamiflu
   - nasal swab repeat
   - will cont empiric flagyl but less for cdiff once stool neg x 1, as no
   colitis on CT, but more for ? of ascending cholangities
   .
   # Hypotension: concern for potential bleed given HCT drop.  Guaic
   negative on exam.  Also concern for RP bleed given having had b/l
   femoral A-line.  Will attempt to lighten sedation.
   -          will check hemolysis labs
   -          transfuse 2 untis of PRBC
   -          check svo2
   -          try to lighten sedation
   .
   # Gallstone:  Distended gallbladder with suggestion of pericholecystic
   fluid and gallbladder stone seen in the region of the neck seen on CT.
   No significant abnormalities of LFTs and no symptoms prior to suggest
   cholysystitis.  U/S with midly dialated CBD.  Gen surgery has seen pt,
   no acute issues.
   -          will stop zosyn.
   -          Cont flagyl for now
   -          Could consider HIDA
   .
   #[**Last Name (un) **]:  Unknown baseline, but Cr at presentation 4.5, now down to 1.0.
   Likely pre-renal hypoperfusion  as improved with improved BP and IVF.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2179-12-17**] 01:30 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-15**] 04:02 AM
   Arterial Line - [**2179-12-15**] 05:00 PM
   20 Gauge - [**2179-12-16**] 05:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-12-18 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: The patient is a 58 year old female who presented with
   complaints of cough/fever/malaise, found to be hypotensive and hypoxic,
   now with ARDS.
   24 Hour Events:
   [**12-17**]
   -- cont to wean sedation; in the middle of the night, pt did become
   agitated, biting on tube, tachpyneic, and would desat to 80s with
   turning; small bolus given
   -- levophed continued to wean overnight
   -- family meeting; updated them on situation; husband will be point
   person for updates
   -- 1 set of blood cx from OSH with alpha hemolytic strep; will call in
   AM for speciation
   -- updated PCP as well
   -- US with cholelithiasis and minor CBD dilation; surgery called,
   unlikely will need cholecystostomy tube with these findings, but can
   consider HIDA scan if patient stable
   ------------------------------------------------------
   [**12-18**]
   -- called that bcx with strep pneumo, awaiting sensitivities
   -- hct drop to 20, and was given 2 units of PRBC with appropriate
   bump.  Svo2 on vigileo at 67%, so gave additional unit.  Held off on
   dobutamine as was only with minimal pressor support.
   -- able to ween off pressors overnight completly.  Svo2 at 82% at
   630am.
   -- no evidence of hemolysis, held off on CT to r/o RP bleed as didnt'
   feel woudl change mangemgent, esp with appropriate bump and reduction
   of pressor requirem,ent
   -- Ground covered in reduction of vent settings lost throughout day.
   Patinent hypoxic to high 80s with movements and sunctioning.  FiO2
   upititrate to 70%
   -- Nursing had to increase sedtation as well.  Held off on a propofol
   switch.
   -- Lower blood pressures at 630am.  Gave 5% albumin (serum levels of
   2.0) and LR bolus in hopes of avoiding restarting pressors.
   Allergies:
   Peanut
   Anaphylaxis;
   Peanut
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin - [**2179-12-16**] 12:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-12-16**] 10:20 AM
   Ceftriaxone - [**2179-12-17**] 12:00 PM
   Vancomycin - [**2179-12-17**] 07:21 PM
   Levofloxacin - [**2179-12-17**] 08:34 PM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-17**] 04:03 PM
   Midazolam (Versed) - [**2179-12-18**] 05:15 AM
   Fentanyl - [**2179-12-18**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-18**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 67 (60 - 81) bpm
   BP: 88/45(59) {86/45(58) - 145/86(106)} mmHg
   RR: 20 (7 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 6 (2 - 19)mmHg
   CO/CI (Fick): (8.8 L/min) / (4.7 L/min/m2)
   Mixed Venous O2% Sat: 65 - 75
   Total In:
                                                                  3,568 mL
                                                                  1,354 mL
   PO:
   TF:
                                                                    570 mL
                                                                      5 mL
   IVF:
                                                                  1,153 mL
                                                                  1,249 mL
   Blood products:
                                                                  1,075 mL
   Total out:
                                                                  1,415 mL
                                                                    810 mL
   Urine:
                                                                  1,415 mL
                                                                    410 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  2,153 mL
                                                                    544 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.43/38/108/22/0
   Ve: 8.8 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   222 K/uL
   9.8 g/dL
   117 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   31 mg/dL
   114 mEq/L
   145 mEq/L
   28.4 %
   21.7 K/uL
        [image002.jpg]
                             [**2179-12-17**]  09:07 AM
                             [**2179-12-17**]  01:22 PM
                             [**2179-12-17**]  05:25 PM
                             [**2179-12-17**]  05:50 PM
                             [**2179-12-17**]  09:11 PM
                             [**2179-12-17**]  10:37 PM
                             [**2179-12-17**]  11:01 PM
                             [**2179-12-18**]  04:25 AM
                             [**2179-12-18**]  05:14 AM
                             [**2179-12-18**]  06:08 AM
   WBC
   25.8
   21.7
   Hct
   26.3
   27.3
   28.4
   Plt
   241
   222
   Cr
   0.6
   0.6
   TCO2
   25
   25
   26
   26
   27
   29
   26
   Glucose
   136
   117
   Other labs: PT / PTT / INR:13.5/30.7/1.2, ALT / AST:29/58, Alk Phos / T
   Bili:160/0.6, Amylase / Lipase:/12, Differential-Neuts:93.0 %, Band:1.0
   %, Lymph:5.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:281 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS:  CXR with multifocal opacities, patient with severe
   hypoxia refractory to initial ventilator settings.  Clinical story,
   CXR, and oxygenation c/w ARDS.  Concerning precipitating triggers
   include bacterial vs. viral pneumonia.  With Gall bladder distension,
   also considering cholycystitis as ARDS precipitator, although less
   likely. Patient p/w fever, cough, marked leukocytosis with bandemia.
   Oxygenation improving from admission, and able to back down on PEEP and
   FIO2.
   - ween PEEP and FiO2 as tolerated.
   - Sputum cultures w/ strep pneumo, will f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 46**]
   - r/o flu, empiric tamiflu rx for now.  Will need to resend flu DFA
   - cont empiric coverage with vanc/CTX/levo, narrow pending culture
   sensitivities
   - liberalized from ARDSNET, and increase TV and [**Month (only) 453**] RR.  Hopefully will
   allow reduction of sedation as well.
   # Sepsis:  Patient with tachycardia, tachypnea, leukocytosis and
   bandemia.  CXR with multifocal pneumonia, and no health care risk
   factors.
   - cont levo/vanc/CTX
   - send sputum cx
   - cont tamiflu
   - nasal swab repeat
   - will cont empiric flagyl but less for cdiff once stool neg x 1, as no
   colitis on CT, but more for ? of ascending cholangities
   # Hypotension: concern for potential bleed given HCT drop.  Guaic
   negative on exam.  Also concern for RP bleed given having had b/l
   femoral A-line.  Will attempt to lighten sedation.
   - neg hemolysis labs
   - trend hct q6-8
   - would not perform abd/pelvic CT
   # Cholelithiasis:  Distended gallbladder with suggestion of
   pericholecystic fluid and gallbladder stone seen in the region of the
   neck seen on CT.  No significant abnormalities of LFTs and no symptoms
   prior to suggest cholysystitis.  U/S with midly dialated CBD.  Gen
   surgery has seen pt, no acute issues.
   - zosyn stopped
   - Cont flagyl for now
   - Could consider HIDA
   #[**Last Name (un) **]:  Unknown baseline, but Cr at presentation 4.5, now down to 1.0.
   Likely pre-renal hypoperfusion  as improved with improved BP and IVF.
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-15**] 04:02 AM
   Arterial Line - [**2179-12-15**] 05:00 PM
   20 Gauge - [**2179-12-16**] 05:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-12-19 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - d/c'd vanc
   - [**Hospital3 11135**]: strep pneumonia sensitivities are send-out to
   [**Hospital1 **], won't be back until wednesday
   - lightened sedation
   - needed 3L LR in afternoon and spiked to 101 -> pancultured, empiric
   antibx for VAP and cholingitis -> vanc/zosyn/levoflox; d/c'd
   ceftriaxone and flagyl
   - in evening, patient with progressive morbilliform eruption in
   dependent areas, spoke with daughter, said that mom DOES have pcn
   allergy (conflicts earlier statement), looked up [**Hospital **] hosp records
   and confirmed that this is correct.
   - spoke with ID: will do vanc/meropenem/levoflox. aztreonam inadequate
   coverage for pseudomonas and meropenem has low cross-reactivity
   - weaned fio2 to 50% but went back up to 60% for pao2 66
 BLOOD CULTURED - At [**2179-12-18**] 05:30 PM
 SPUTUM CULTURE - At [**2179-12-18**] 05:30 PM
 URINE CULTURE - At [**2179-12-18**] 05:30 PM
 STOOL CULTURE - At [**2179-12-18**] 05:30 PM
 BLOOD CULTURED - At [**2179-12-18**] 06:06 PM
 FEVER - 101.2
F - [**2179-12-18**] 04:00 PM
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2179-12-16**] 10:20 AM
   Ceftriaxone - [**2179-12-18**] 12:48 PM
   Piperacillin - [**2179-12-18**] 06:05 PM
   Vancomycin - [**2179-12-18**] 08:18 PM
   Levofloxacin - [**2179-12-18**] 09:05 PM
   Meropenem - [**2179-12-19**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-19**] 12:00 AM
   Midazolam (Versed) - [**2179-12-19**] 01:05 AM
   Fentanyl - [**2179-12-19**] 01:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-19**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.8
   HR: 77 (68 - 93) bpm
   BP: 119/59(80) {89/43(58) - 155/77(107)} mmHg
   RR: 21 (13 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 6 (2 - 14)mmHg
   Total In:
                                                                  6,271 mL
                                                                    565 mL
   PO:
   TF:
                                                                    234 mL
                                                                    112 mL
   IVF:
                                                                  5,247 mL
                                                                    403 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  2,255 mL
                                                                    690 mL
   Urine:
                                                                  1,695 mL
                                                                    690 mL
   NG:
                                                                    160 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  4,016 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (360 - 450) mL
   Vt (Spontaneous): 368 (368 - 368) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/40/66/24/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 110
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   9.6 g/dL
   116 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.3 mEq/L
   19 mg/dL
   113 mEq/L
   146 mEq/L
   27.8 %
   23.6 K/uL
        [image002.jpg]
                             [**2179-12-17**]  10:37 PM
                             [**2179-12-17**]  11:01 PM
                             [**2179-12-18**]  04:25 AM
                             [**2179-12-18**]  05:14 AM
                             [**2179-12-18**]  06:08 AM
                             [**2179-12-18**]  11:30 AM
                             [**2179-12-18**]  01:56 PM
                             [**2179-12-18**]  08:33 PM
                             [**2179-12-19**]  03:00 AM
                             [**2179-12-19**]  03:43 AM
   WBC
   21.7
   23.6
   Hct
   27.3
   28.4
   29.5
   27.8
   Plt
   222
   259
   Cr
   0.6
   0.5
   TCO2
   27
   29
   26
   26
   27
   28
   Glucose
   117
   116
   Other labs: PT / PTT / INR:13.6/27.8/1.2, ALT / AST:25/43, Alk Phos / T
   Bili:155/0.5, Amylase / Lipase:/12, Differential-Neuts:91.3 %, Band:1.0
   %, Lymph:5.9 %, Mono:1.9 %, Eos:0.6 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:281 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS:  CXR with multifocal opacities, patient with severe
   hypoxia refractory to initial ventilator settings.  Clinical story,
   CXR, and oxygenation c/w ARDS.  Concerning precipitating triggers
   include bacterial vs. viral pneumonia.  With gallbladder distension,
   also considering cholecystitis as ARDS precipitator, although less
   likely.  Increased Fio2 overnight.
   - wean PEEP and FiO2 as tolerated.
   - Sputum cultures w/ strep pneumo, will f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 46**] (likely Wednesday)
   - r/o flu, empiric tamiflu rx for now.  Clarify whether state lab
   received sputum for H1N1 PCR.
   - cont empiric coverage with CTX/levo, d/c vanc
   - liberalized from ARDSNET, and increase TV and [**Month (only) 453**] RR.  Hopefully will
   allow reduction of sedation as well.
   # Sepsis/Hypotension:  Patient with tachycardia, tachypnea,
   leukocytosis and bandemia.  CXR with multifocal pneumonia, and no
   health care risk factors.  Also concern for RP bleed given having had
   b/l femoral A-line.
   - LR bolus
   - cont levo/CTX
   - cont tamiflu
   - will cont empiric flagyl but less for cdiff once stool neg x 1, as no
   colitis on CT, but more for ? of ascending cholangities
   # Anemia:   neg hemolysis labs.  [**Month (only) 8**] be ACI in setting of infection.
   - trend hct q6-8
   - guaiac stools
   - iron studies
   - would not perform abd/pelvic CT
   # Cholelithiasis:  Distended gallbladder with suggestion of
   pericholecystic fluid and gallbladder stone seen in the region of the
   neck seen on CT.  No significant abnormalities of LFTs and no symptoms
   prior to suggest cholysystitis.  U/S with midly dialated CBD.  Gen
   surgery has seen pt, no acute issues.
   - zosyn stopped
   - Cont flagyl for now. On ceftriaxone.
   - Could consider HIDA
   #[**Last Name (un) **]:  Unknown baseline, but Cr at presentation 4.5, now down to 1.0.
   Likely pre-renal hypoperfusion as improved with improved BP and IVF.
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, SEPTIC
 PNEUMONIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2179-12-18**] 08:18 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-15**] 04:02 AM
   Arterial Line - [**2179-12-15**] 05:00 PM
   20 Gauge - [**2179-12-16**] 05:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2179-12-20 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2179-12-20**] 02:00 AM
   --PM hct stable
   -- PEEP at 10; no major changes;  BP held steady throughout the day
   -- sedation continued to wean, once too low though patient bites on
   tube and gags
   -- sat in chair for part of the day
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2179-12-18**] 12:48 PM
   Piperacillin - [**2179-12-18**] 06:05 PM
   Vancomycin - [**2179-12-19**] 08:34 PM
   Levofloxacin - [**2179-12-19**] 10:00 PM
   Meropenem - [**2179-12-20**] 06:15 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-20**] 12:29 AM
   Midazolam (Versed) - [**2179-12-20**] 06:39 AM
   Fentanyl - [**2179-12-20**] 06:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-20**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.2
   HR: 80 (72 - 99) bpm
   BP: 115/61(80) {99/49(67) - 162/87(115)} mmHg
   RR: 21 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 10 (8 - 15)mmHg
   Total In:
                                                                  3,324 mL
                                                                    543 mL
   PO:
   TF:
                                                                    386 mL
                                                                     40 mL
   IVF:
                                                                  2,338 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    540 mL
   Urine:
                                                                  1,890 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,434 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 25 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.45/44/85.[**Numeric Identifier 299**]/28/5
   Ve: 11.6 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   378 K/uL
   9.3 g/dL
   117 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   13 mg/dL
   113 mEq/L
   147 mEq/L
   27.4 %
   21.0 K/uL
        [image002.jpg]
                             [**2179-12-18**]  06:08 AM
                             [**2179-12-18**]  11:30 AM
                             [**2179-12-18**]  01:56 PM
                             [**2179-12-18**]  08:33 PM
                             [**2179-12-19**]  03:00 AM
                             [**2179-12-19**]  03:43 AM
                             [**2179-12-19**]  11:05 AM
                             [**2179-12-19**]  04:49 PM
                             [**2179-12-20**]  03:33 AM
                             [**2179-12-20**]  04:54 AM
   WBC
   23.6
   21.0
   Hct
   29.5
   27.8
   33
   27.4
   Plt
   259
   378
   Cr
   0.5
   0.5
   TCO2
   26
   26
   27
   28
   28
   26
   32
   Glucose
   116
   117
   Other labs: PT / PTT / INR:14.1/27.5/1.2, ALT / AST:25/43, Alk Phos / T
   Bili:155/0.5, Amylase / Lipase:/12, Differential-Neuts:91.3 %, Band:1.0
   %, Lymph:5.9 %, Mono:1.9 %, Eos:0.6 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:281 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS:  CXR with multifocal opacities, patient with severe
   hypoxia refractory to initial ventilator settings.  Clinical story,
   CXR, and oxygenation c/w ARDS.  Concerning precipitating triggers
   include bacterial vs. viral pneumonia.  With gallbladder distension,
   also considering cholecystitis as ARDS precipitator, although less
   likely.  Respiratory status stable on current regimen.
   - wean PEEP and FiO2 as tolerated.
   - Blood cultures w/ strep pneumo, will f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 46**] (likely Wednesday)
   - Continue Levoflox / Tamiflu / Vanco / Meropenem.
   - Clarify whether state lab received sputum for H1N1 PCR.
   - Will begin diuresis, goal -1L today with lasix gtt
   - Consider adding metolazone
   # Fever: As above, likely infection but given ongoing fever will need
   to consider other etiologies
   - Amylase, lipase
   - LFT
   - Add differential for ? drug allergy
   - Change arterial a-line
   - Change CVL
   - Consider HIDA if workup unrevealing given borderline CBD dilatation
   # Sepsis/Hypotension:  Patient with tachycardia, tachypnea,
   leukocytosis and bandemia.  CXR with multifocal pneumonia, and no
   health care risk factors.  Stable hct, low concern for RP bleed from
   b/l femoral A-line.
   - LR bolus
   - cont vanco/[**Last Name (un) **]/levoflox
   - cont tamiflu
   # Anemia:   neg hemolysis labs.  [**Month (only) 8**] be ACI in setting of infection.
   - [**Hospital1 **] Hct for now
   - would not perform abd/pelvic CT
   # Cholelithiasis:  Distended gallbladder with suggestion of
   pericholecystic fluid and gallbladder stone seen in the region of the
   neck seen on CT.  No significant abnormalities of LFTs and no symptoms
   prior to suggest cholysystitis.  U/S with midly dialated CBD.  Gen
   surgery has seen pt, no acute issues.
   - cont vanco/[**Last Name (un) **]/levoflox
   - Could consider HIDA
   # Hypernatremia: 1.1L free water deficit, will correct with free water
   IV given high residuals
   - Will hold off
   #[**Last Name (un) **]:  Unknown baseline, but Cr at presentation 4.5, now down to 1.0.
   Likely pre-renal hypoperfusion as improved with improved BP and IVF.
   # Sedation : Fentanyl / Versed
   # High residuals: Start erythromycin 250mg IV, check ECG for QT
   prolongation
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, SEPTIC
 PNEUMONIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition: Tube feeds, high residuals
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-15**] 04:02 AM
   Arterial Line - [**2179-12-15**] 05:00 PM
   20 Gauge - [**2179-12-16**] 05:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICu

2179-12-20 07:40:00 Physician Attending Progress Note
Chief Complaint:
   HPI: 58 yo woman with septic shock and ARDS in the setting of
   pneumococcal pneumonia and bacteremia.
   24 Hour Events:
 patient was OOB to chair briefly yesterday
continues to be febrile
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2179-12-18**] 12:48 PM
   Piperacillin - [**2179-12-18**] 06:05 PM
   Vancomycin - [**2179-12-19**] 08:34 PM
   Levofloxacin - [**2179-12-19**] 10:00 PM
   Meropenem - [**2179-12-20**] 06:15 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-20**] 12:29 AM
   Midazolam (Versed) - [**2179-12-20**] 06:39 AM
   Fentanyl - [**2179-12-20**] 06:39 AM
   Other medications:
   Meropenem 500mg IV q6hr
   Tamiflu 150mg [**Hospital1 **]
   Levaquin 750mg IV daily
   Vancomycin 1gm IV q12hr
   Combivent
   Famotidine 20mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-20**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.2
   HR: 80 (72 - 99) bpm
   BP: 115/61(80) {99/49(67) - 162/87(115)} mmHg
   RR: 21 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 10 (8 - 15)mmHg
   Total In:
                                                                  3,324 mL
                                                                    547 mL
   PO:
   TF:
                                                                    386 mL
                                                                     40 mL
   IVF:
                                                                  2,338 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    540 mL
   Urine:
                                                                  1,890 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,434 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 25 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.45/44/85.[**Numeric Identifier 299**]/28/5
   Ve: 11.6 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   378 K/uL
   117 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   13 mg/dL
   113 mEq/L
   147 mEq/L
   27.4 %
   21.0 K/uL
        [image002.jpg]
   Sputum [**12-18**]: NGTD, [**12-15**] yeast
   Blood 1/25: pending, all other blood cultures at [**Hospital1 5**] negative
                             [**2179-12-18**]  06:08 AM
                             [**2179-12-18**]  11:30 AM
                             [**2179-12-18**]  01:56 PM
                             [**2179-12-18**]  08:33 PM
                             [**2179-12-19**]  03:00 AM
                             [**2179-12-19**]  03:43 AM
                             [**2179-12-19**]  11:05 AM
                             [**2179-12-19**]  04:49 PM
                             [**2179-12-20**]  03:33 AM
                             [**2179-12-20**]  04:54 AM
   WBC
   23.6
   21.0
   Hct
   29.5
   27.8
   33
   27.4
   Plt
   259
   378
   Cr
   0.5
   0.5
   TCO2
   26
   26
   27
   28
   28
   26
   32
   Glucose
   116
   117
   Other labs: PT / PTT / INR:14.1/27.5/1.2, ALT / AST:25/43, Alk Phos / T
   Bili:155/0.5, Amylase / Lipase:/12, Differential-Neuts:91.3 %, Band:1.0
   %, Lymph:5.9 %, Mono:1.9 %, Eos:0.6 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:281 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   7.45/44/85 (TV 450 PEEP 10 FiO2 0.6)
   Assessment and Plan
   ARDS due to pneumococcal pneumonia and bacteremia, cannot rule out
   influenza
   -still with severe hypoxemia.  Will start diuresis with goal net out 1L
   daily, will use lasix drip
   -continue with current ventilatory setting for now. Although on 8cc/kg
   her peak pressure is 24 H2O
   Persistent fevers of unclear etiology.  H1N1 vs allergic reaction given
   penicillin allergy vs new infection
   -continues on extremely broad spectrum antibiotics but still with
   persistent fevers
   -will contact  ID fellow today regarding [**Name (NI) 11140**] PCR from State lab
   -add on differential to evaluate for eosinophilia
   -LFTs yesterday normal
   -add on amylase/lipase
   -place radial a-line and remove femoral a-line
   -will try to place peripheral IV and remove R IJ TLC.  If she needs
   additional access can place L IJ TLC
   Anemia
   -Hct now stable after transfusion
   Vasopressor dependent shock, now resolved
   ICU Care
   Nutrition: TF limited by gastroparesis, will add IV erythromycin to
   standing raglan, check QTc
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2179-12-15**] 04:02 AM
   Arterial Line - [**2179-12-15**] 05:00 PM
   20 Gauge - [**2179-12-16**] 05:56 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP: chlorhexadine mouth wash
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, continues to have fevers, otherwise no new complaints
   T max 38.4   BP 136/72   P 80s  RR 22  Sat: 94%  PRVC
   Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft, NT ND
   Ext: +1 edema
   Labs: As above
   Assessment:
   1)       Acute Respiratory Failure secondary to strep pneumonia
   2)       Pneumonia, strep plus possible VAP
   3)       Persistent Fever
   4)       Acute renal failure
 improved
   Discussion: Patient remains persistently febrile and was so over the
   weekend with some associated low blood pressures.  At this point, a
   central line infection is possible as is a VAP superimposed on the
   original strep pneumonia.  Thus, we will change the line today.  We
   will also begin to diurese to help get off the ventilator.
   Plan:
   1)       Re-site the central line
   2)       Diuresis
   3)       Continue current vent settings
 if patient becomes
   dysynchronus might try changing from PRVC to set flow and see if this
   helps.  Try not to increase the sedation.
   4)       Continue current antibiotic regimen and get sensitivities from
   OSH for strep
   Time Spent: 45 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2179-12-20**] 05:26 PM ------

2179-12-21 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2179-12-20**] 10:00 AM
 URINE CULTURE - At [**2179-12-20**] 10:00 AM
 EKG - At [**2179-12-20**] 11:00 AM
 ARTERIAL LINE - START [**2179-12-20**] 01:47 PM
 ARTERIAL LINE - STOP [**2179-12-20**] 02:43 PM
 MULTI LUMEN - START [**2179-12-20**] 04:35 PM
 MULTI LUMEN - STOP [**2179-12-20**] 08:21 PM
 FEVER - 101.5
F - [**2179-12-20**] 11:00 AM
   -Called [**Hospital1 **] for sensetivities; not returned from [**Hospital1 **] lab yet;
   will call us when it returns (gave # to our floor)
   -Per virology lab; report returned and Influenza A/B negative so d/c'd
   tamiflu
   LFTs returned; Amylase 74, alt 128, ast 25, Alk Phos 125
   -Corrected calcium 8.4 (low end of normal) given low albumin
   -A-Line placed
   -PICC team won't place until temp <100.5 for 24 hours
   -EKG w/o prolongation of QTC
   -placed left IJ
   -pt with low residuals and TF titrated up 50cc/hr
   Patient unable to provide history: Sedated
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2179-12-18**] 12:48 PM
   Piperacillin - [**2179-12-18**] 06:05 PM
   Vancomycin - [**2179-12-20**] 08:00 PM
   Levofloxacin - [**2179-12-20**] 09:24 PM
   Erythromycin - [**2179-12-21**] 12:00 AM
   Meropenem - [**2179-12-21**] 05:23 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2179-12-20**] 11:28 AM
   Fentanyl - [**2179-12-20**] 06:23 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-21**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.4
   HR: 88 (75 - 113) bpm
   BP: 119/63(86) {76/45(57) - 152/82(111)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 4 (4 - 15)mmHg
   Total In:
                                                                  2,386 mL
                                                                  1,060 mL
   PO:
   TF:
                                                                    454 mL
                                                                    300 mL
   IVF:
                                                                  1,332 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  6,335 mL
                                                                    875 mL
   Urine:
                                                                  6,135 mL
                                                                    875 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -3,949 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 741 (741 - 741) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/45/123/32/10
   Ve: 14 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Intubated, sedated
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Rhonchorus
   : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   474 K/uL
   10.0 g/dL
   144 mg/dL
   0.4 mg/dL
   32 mEq/L
   3.4 mEq/L
   11 mg/dL
   103 mEq/L
   141 mEq/L
   29.1 %
   17.7 K/uL
        [image002.jpg]
                             [**2179-12-19**]  03:00 AM
                             [**2179-12-19**]  03:43 AM
                             [**2179-12-19**]  11:05 AM
                             [**2179-12-19**]  04:49 PM
                             [**2179-12-20**]  03:33 AM
                             [**2179-12-20**]  04:54 AM
                             [**2179-12-21**]  02:17 AM
                             [**2179-12-21**]  02:35 AM
                             [**2179-12-21**]  04:33 AM
                             [**2179-12-21**]  05:47 AM
   WBC
   23.6
   21.0
   17.7
   Hct
   27.8
   33
   27.4
   29.1
   Plt
   259
   378
   474
   Cr
   0.5
   0.5
   0.4
   TCO2
   28
   28
   26
   32
   35
   36
   35
   Glucose
   116
   117
   144
   Other labs: PT / PTT / INR:13.6/26.8/1.2, ALT / AST:14/24, Alk Phos / T
   Bili:114/0.4, Amylase / Lipase:74/83, Differential-Neuts:81.4 %,
   Band:0.0 %, Lymph:13.0 %, Mono:4.0 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:277 IU/L, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS:  CXR with multifocal opacities, patient with severe
   hypoxia refractory to initial ventilator settings.  Clinical story,
   CXR, and oxygenation c/w ARDS.  Most likely [**12-28**] Strep Pneumo as grown
   on OSH blood cultures. Influenza negative from State Lab.  Pt initially
   appeared volume overloaded and felt this may be contributing to
   hypoxia; did trial of Lasix yesterday however BP dropped and had large
   volume UOP, patient with 15L LOS (+) Fluid status
   - wean PEEP and FiO2 as tolerated.
   - Lasix 20mg IV + gtt, goal -200cc / hr
   -Have changed sedation to propofol o/n as patient drops BP with
   increasing sedation required for her agitation
   - Blood cultures w/ strep pneumo, pan sensitive per OSH sensitivities
   - Continue Levoflox / Vanco / Meropenem.
   # Fever: As above, and continues to spoke 101.5 overnight. Femoral
   A-line pulled and CVL resited yesterday as possible sources of
   infection. Most likely fever due to known strep bactermia
   - LFTs, amylase/lipase and negative diff for eosinophilia makes drug
   reaction unlikely
   - Consider HIDA if workup unrevealing given borderline CBD dilatation
   - Vanc / Levo x 14 days
   - Will stop Meropenem, especially given possibility of drug fever
   - LENI to r/o DVT
   # Anemia: Stable, likely dilutional in setting of massive volume
   overload.
   - Improving over past few days; continue to trend
   # Cholelithiasis:  Per Gen surgery has seen pt, no acute issues.
   Monitor however low likelihood of contribution to fevers
   - Could consider HIDA in the future
   # Hypernatremia: Resolved
   #[**Last Name (un) **]:  Unknown baseline, but Cr at presentation 4.5, now down to 1.0.
   Likely pre-renal hypoperfusion as improved with improved BP and IVF.
   # Sedation : Propofol gtt for now
   # High residuals: Start erythromycin 250mg IV, ECG without evidence of
   QT prolongation
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, SEPTIC
 PNEUMONIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2179-12-21**] 01:59 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-12-16**] 05:56 PM
   Arterial Line - [**2179-12-20**] 01:47 PM
   Multi Lumen - [**2179-12-20**] 04:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2179-12-21 09:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2179-12-20**] 10:00 AM
 URINE CULTURE - At [**2179-12-20**] 10:00 AM
 EKG - At [**2179-12-20**] 11:00 AM
 ARTERIAL LINE - START [**2179-12-20**] 01:47 PM
 ARTERIAL LINE - STOP [**2179-12-20**] 02:43 PM
 MULTI LUMEN - START [**2179-12-20**] 04:35 PM
 MULTI LUMEN - STOP [**2179-12-20**] 08:21 PM
 FEVER - 101.5
F - [**2179-12-20**] 11:00 AM
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2179-12-18**] 12:48 PM
   Piperacillin - [**2179-12-18**] 06:05 PM
   Levofloxacin - [**2179-12-20**] 09:24 PM
   Erythromycin - [**2179-12-21**] 12:00 AM
   Meropenem - [**2179-12-21**] 05:23 AM
   Vancomycin - [**2179-12-21**] 08:22 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2179-12-20**] 11:28 AM
   Fentanyl - [**2179-12-20**] 06:23 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-21**] 12:00 AM
   Other medications:
   peridex, heparin s/c, pepcid, levofloxacin d6, colace, reglan,
   miconazole, meropenem 500 q6, albuterol, vancomycin d6, nicotine patch,
   erythromycin, fentanyl patch 25mcg.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-21**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.8
   HR: 85 (75 - 113) bpm
   BP: 139/79(104) {76/45(57) - 152/83(111)} mmHg
   RR: 18 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 7 (4 - 15)mmHg
   Total In:
                                                                  2,386 mL
                                                                  1,490 mL
   PO:
   TF:
                                                                    454 mL
                                                                    377 mL
   IVF:
                                                                  1,332 mL
                                                                    923 mL
   Blood products:
   Total out:
                                                                  6,335 mL
                                                                  1,295 mL
   Urine:
                                                                  6,135 mL
                                                                  1,295 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -3,949 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 489 (489 - 741) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 23 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/45/123/32/10
   Ve: 10.9 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   474 K/uL
   144 mg/dL
   0.4 mg/dL
   32 mEq/L
   3.4 mEq/L
   11 mg/dL
   103 mEq/L
   141 mEq/L
   29.1 %
   17.7 K/uL
        [image002.jpg]
                             [**2179-12-19**]  03:00 AM
                             [**2179-12-19**]  03:43 AM
                             [**2179-12-19**]  11:05 AM
                             [**2179-12-19**]  04:49 PM
                             [**2179-12-20**]  03:33 AM
                             [**2179-12-20**]  04:54 AM
                             [**2179-12-21**]  02:17 AM
                             [**2179-12-21**]  02:35 AM
                             [**2179-12-21**]  04:33 AM
                             [**2179-12-21**]  05:47 AM
   WBC
   23.6
   21.0
   17.7
   Hct
   27.8
   33
   27.4
   29.1
   Plt
   259
   378
   474
   Cr
   0.5
   0.5
   0.4
   TCO2
   28
   28
   26
   32
   35
   36
   35
   Glucose
   116
   117
   144
   Other labs: PT / PTT / INR:13.6/26.8/1.2, ALT / AST:14/24, Alk Phos / T
   Bili:114/0.4, Amylase / Lipase:74/83, Differential-Neuts:81.4 %,
   Band:0.0 %, Lymph:13.0 %, Mono:4.0 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:277 IU/L, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR ? worsening in the RUL
   Microbiology: urine culture yeast
   Assessment and Plan
 ALTERATION IN NUTRITION:
   continue tube feeds, decreased residuals on reglan.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   resolved.
 Fever/pneumonia: Will obtain LENIs, if n3egative with obtain facial
   CT to evaluate for sinusitis. Will d/c meropenem. continue levofloxacin
   and vancomycin by level.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**]):
   diuresis goal CVP <4, will start lasix drip.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2179-12-21**] 01:59 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-12-16**] 05:56 PM
   Arterial Line - [**2179-12-20**] 01:47 PM
   Multi Lumen - [**2179-12-20**] 04:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   This note was incorrectly signed by Dr. [**First Name (STitle) 284**]. The author of this note is
   Dr. [**First Name8 (NamePattern2) **] [**Name (STitle) 9018**].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 9018**], MD
   on:[**2179-12-21**] 11:17 ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, continues to have fever spikes but blood pressure improved
   T 38.2   P 86  BP 119/68  RR 16  Sat: 93%
   Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: +1 edema bilaterally
   Labs: As above
   CXR: bilateral infiltrates R>L;  ETT slightly high
   Assessment:
   1)      Acute Respiratory Failure
   2)      Community-acquired Strep Pneumonia
   3)      Septic Shock secondary to strep
   4)      ARDS
   5)      Acute Renal Failure
 resolved
   6)      Persistent Fever:
   Plan:
   1)      Continue diuresis
   2)      Continue mechanical ventilation -> wean as tolerated as we
   diurese
   3)      Continue propofol
   4)      Will discontinue Meropenum as may be allergic and no growth
   from sputum in terms of nosocomial pneumonia
   Time Spent: 35 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2179-12-21**] 04:16 PM ------

2179-12-22 11:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2179-12-21**] 10:12 AM
   LENIs bilat
   -Propofol gtt continued; pt with low SBPs so vasopressin restarted
   -IV Lasix gtt initiated without bolus given borderline low BPs-->UOP
   200cc/hr
   -Meropenem discontinued (on rounds)
   -LENIs: no DVT
   -TF advanced to 50cc with less residuals
   -PM lytes repleted
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2179-12-21**] 05:23 AM
   Levofloxacin - [**2179-12-21**] 08:00 PM
   Erythromycin - [**2179-12-22**] 12:00 AM
   Vancomycin - [**2179-12-22**] 07:56 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 1.5 mg/hour
   Propofol - 50 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Fentanyl - [**2179-12-21**] 12:36 PM
   Propofol - [**2179-12-21**] 06:54 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-22**] 09:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-22**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 61 (61 - 103) bpm
   BP: 137/89(107) {74/39(48) - 140/124(126)} mmHg
   RR: 23 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 11 (7 - 11)mmHg
   Total In:
                                                                  3,798 mL
                                                                  2,052 mL
   PO:
   TF:
                                                                  1,104 mL
                                                                    765 mL
   IVF:
                                                                  2,004 mL
                                                                    978 mL
   Blood products:
   Total out:
                                                                  4,735 mL
                                                                  4,170 mL
   Urine:
                                                                  4,335 mL
                                                                  4,170 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -937 mL
                                                                 -2,118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 521 (500 - 600) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.49/37/86/30/4
   Ve: 10.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Intubated, sedated
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Rhonchorus
   : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   559 K/uL
   9.8 g/dL
   170 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   10 mg/dL
   99 mEq/L
   139 mEq/L
   29.4 %
   16.5 K/uL
        [image002.jpg]
                             [**2179-12-20**]  03:33 AM
                             [**2179-12-20**]  04:54 AM
                             [**2179-12-21**]  02:17 AM
                             [**2179-12-21**]  02:35 AM
                             [**2179-12-21**]  04:33 AM
                             [**2179-12-21**]  05:47 AM
                             [**2179-12-21**]  10:10 AM
                             [**2179-12-22**]  04:51 AM
                             [**2179-12-22**]  05:06 AM
                             [**2179-12-22**]  10:30 AM
   WBC
   21.0
   17.7
   16.5
   Hct
   27.4
   29.1
   29.4
   Plt
   378
   474
   559
   Cr
   0.5
   0.4
   0.4
   TCO2
   32
   35
   36
   35
   36
   35
   29
   Glucose
   117
   144
   170
   Other labs: PT / PTT / INR:12.7/26.5/1.1, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:81.6 %,
   Band:0.0 %, Lymph:13.6 %, Mono:3.1 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, SEPTIC
 PNEUMONIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS:  CXR with multifocal opacities, patient with severe
   hypoxia refractory to initial ventilator settings.  Clinical story,
   CXR, and oxygenation c/w ARDS.  Most likely [**12-28**] Strep Pneumo as grown
   on OSH blood cultures. Influenza negative from State Lab.  Pt initially
   appeared volume overloaded and felt this may be contributing to
   hypoxia; pt was diuresed on a lasix gtt with good urine output.
   - wean PEEP and FiO2 as tolerated.
   - Lasix gtt, goal -200cc / hr
   - Blood cultures w/ strep pneumo, pan sensitive per OSH sensitivities
   - Continue Levoflox / Vanco
   # Fever: As above, and continues to spoke 101.5 overnight. Femoral
   A-line pulled and CVL resited yesterday as possible sources of
   infection. Most likely fever due to known strep bactermia
   - LFTs, amylase/lipase and negative diff for eosinophilia makes drug
   reaction unlikely
   - Consider HIDA if workup unrevealing given borderline CBD dilatation
   - Vanc / Levo x 14 days
   - LENI to r/o DVT
   # Anemia: Stable, likely dilutional in setting of massive volume
   overload.
   - Improving over past few days; continue to trend
   # Cholelithiasis:  Per Gen surgery has seen pt, no acute issues.
   Monitor however low likelihood of contribution to fevers
   - Could consider HIDA in the future
   # Hypernatremia: Resolved
   #[**Last Name (un) **]:  Unknown baseline, but Cr at presentation 4.5, now down to 0.4.
   Likely pre-renal hypoperfusion as improved with improved BP and IVF.
   # Sedation : Propofol gtt for now
   - will check TG
   # High residuals: Start erythromycin 250mg IV, ECG without evidence of
   QT prolongation
   #. Hypocalcemia: Ionized 0.83.  Likely immobility and Vit D def
   - check Vit D and treat if low
   - will replete Ca
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2179-12-22**] 07:04 AM 65 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-12-16**] 05:56 PM
   Arterial Line - [**2179-12-20**] 01:47 PM
   Multi Lumen - [**2179-12-20**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:  H2
   VAP:-  VAP ppx protocol
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU

2179-12-22 11:46:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ULTRASOUND - At [**2179-12-21**] 10:12 AM
   LENIs bilat negative.
remains on vasopressin.
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2179-12-21**] 05:23 AM
   Levofloxacin - [**2179-12-21**] 08:00 PM
   Erythromycin - [**2179-12-22**] 12:00 AM
   Vancomycin - [**2179-12-22**] 07:56 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 1.5 mg/hour
   Propofol - 50 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Fentanyl - [**2179-12-21**] 12:36 PM
   Propofol - [**2179-12-21**] 06:54 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-22**] 09:05 AM
   Other medications:
   peridex, heparin [**Hospital1 **], famotidine, levofloxacin, colace, reglan,
   miconazole, albuterol, atrovent, free water boluses, vancomcyin,
   nicotine patch, erythromycin, propofol at 40.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-22**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 61 (61 - 103) bpm
   BP: 137/89(107) {74/39(48) - 140/124(126)} mmHg
   RR: 23 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 11 (7 - 11)mmHg
   Total In:
                                                                  3,798 mL
                                                                  2,050 mL
   PO:
   TF:
                                                                  1,104 mL
                                                                    764 mL
   IVF:
                                                                  2,004 mL
                                                                    976 mL
   Blood products:
   Total out:
                                                                  4,735 mL
                                                                  4,170 mL
   Urine:
                                                                  4,335 mL
                                                                  4,170 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -937 mL
                                                                 -2,120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 521 (500 - 600) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.49/37/86/30/4
   Ve: 10.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   559 K/uL
   170 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   10 mg/dL
   99 mEq/L
   139 mEq/L
   29.4 %
   16.5 K/uL
        [image002.jpg]
                             [**2179-12-20**]  03:33 AM
                             [**2179-12-20**]  04:54 AM
                             [**2179-12-21**]  02:17 AM
                             [**2179-12-21**]  02:35 AM
                             [**2179-12-21**]  04:33 AM
                             [**2179-12-21**]  05:47 AM
                             [**2179-12-21**]  10:10 AM
                             [**2179-12-22**]  04:51 AM
                             [**2179-12-22**]  05:06 AM
                             [**2179-12-22**]  10:30 AM
   WBC
   21.0
   17.7
   16.5
   Hct
   27.4
   29.1
   29.4
   Plt
   378
   474
   559
   Cr
   0.5
   0.4
   0.4
   TCO2
   32
   35
   36
   35
   36
   35
   29
   Glucose
   117
   144
   170
   Other labs: PT / PTT / INR:12.7/26.5/1.1, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:81.6 %,
   Band:0.0 %, Lymph:13.6 %, Mono:3.1 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR: stable. Tubes in good position.
   Microbiology: Culture NGTD
   Assessment and Plan
 ALTERATION IN NUTRITION: continue tube feeds improved on
   erythromcyin.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): continues on vasopressin
   while she diuresis.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY,
   [**Doctor Last Name 76**])/Pneumonia:
   continue diuresis, continue levofloxacin for 14days. Drop peep to 8 and
   reassess ABG. continue lasix drip.
 Sedation: will lighten goal sedation RAS -[**11-27**], check triglyceride
   level
 Hypo-calcemia: wil check Vitamin D and Alkphos.
   Rest of plan per HO team.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2179-12-22**] 07:04 AM 65 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-12-16**] 05:56 PM
   Arterial Line - [**2179-12-20**] 01:47 PM
   Multi Lumen - [**2179-12-20**] 04:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient and agree with the assessment and
   plan as above with the following modifications/emphasis:
   Overnight, patient continues to diurese; no new problems overnight
   Vitals as above
 intermittently requiring vasopressin for hypotension
   Gen: Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 regular
   Abd: Soft NT ND
   Ext: +1 edema
   Labs: As above
   CXR: bilateral infiltrates
   Assessment:
   1) Pneumonia: Strep Pneumonia
   2) Sepsis
   3) Acute Respiratory Failure
   4) Acute Renal Failure
   Plan:
   1) Continue antibiotics for strep
   2) Continue diuresis
   3)  Wean Fio2/PEEP as tolerated
   Time Spent: 35 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2179-12-22**] 17:53 ------

2179-12-23 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Significant hypocalcemia, hypokalemia and hypomagnisemia
   - Developed mild alkalosis overnight, stopped lasit gtt with -2L
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2179-12-21**] 05:23 AM
   Levofloxacin - [**2179-12-22**] 08:18 PM
   Vancomycin - [**2179-12-22**] 10:17 PM
   Erythromycin - [**2179-12-23**] 12:09 AM
   Infusions:
   Vasopressin - 1.8 units/hour
   Propofol - 40 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-23**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-23**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 81 (52 - 81) bpm
   BP: 115/49(157) {85/39(48) - 152/148(157)} mmHg
   RR: 21 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 12 (8 - 13)mmHg
   Total In:
                                                                  3,807 mL
                                                                  1,031 mL
   PO:
   TF:
                                                                  1,207 mL
                                                                    348 mL
   IVF:
                                                                  2,160 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  6,080 mL
                                                                    920 mL
   Urine:
                                                                  6,080 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,273 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 490 (374 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.51/47/61/33/12
   Ve: 10.4 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Intubated, sedated
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Rhonchorus
   : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   528 K/uL
   8.5 g/dL
   155 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.6 mEq/L
   10 mg/dL
   95 mEq/L
   136 mEq/L
   25.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2179-12-21**]  05:47 AM
                             [**2179-12-21**]  10:10 AM
                             [**2179-12-22**]  04:51 AM
                             [**2179-12-22**]  05:06 AM
                             [**2179-12-22**]  10:30 AM
                             [**2179-12-22**]  06:00 PM
                             [**2179-12-22**]  06:25 PM
                             [**2179-12-23**]  12:24 AM
                             [**2179-12-23**]  05:07 AM
                             [**2179-12-23**]  05:11 AM
   WBC
   16.5
   14.1
   Hct
   29.4
   25.1
   Plt
   559
   528
   Cr
   0.4
   0.4
   0.3
   TCO2
   35
   36
   35
   29
   40
   36
   39
   Glucose
   170
   155
   Other labs: PT / PTT / INR:12.2/29.0/1.0, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:81.6 %,
   Band:0.0 %, Lymph:13.6 %, Mono:3.1 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, SEPTIC
 PNEUMONIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS:  CXR with multifocal opacities, patient with severe
   hypoxia refractory to initial ventilator settings.  Clinical story,
   CXR, and oxygenation c/w ARDS.  Most likely [**12-28**] Strep Pneumo as grown
   on OSH blood cultures. Influenza negative from State Lab.  Pt initially
   appeared volume overloaded and felt this may be contributing to
   hypoxia; pt was diuresed on a lasix gtt with good urine output.
   - wean PEEP and FiO2 as tolerated.
   - Lasix gtt, goal -200cc / hr
   - Blood cultures w/ strep pneumo, pan sensitive per OSH sensitivities
   - Continue Levoflox / Vanco
   # Fever: As above, and continues to spoke 101.5 overnight. Femoral
   A-line pulled and CVL resited yesterday as possible sources of
   infection. Most likely fever due to known strep bactermia
   - LFTs, amylase/lipase and negative diff for eosinophilia makes drug
   reaction unlikely
   - Consider HIDA if workup unrevealing given borderline CBD dilatation
   - Vanc / Levo x 14 days
   - LENI to r/o DVT
   # Anemia: Stable, likely dilutional in setting of massive volume
   overload.
   - Improving over past few days; continue to trend
   # Cholelithiasis:  Per Gen surgery has seen pt, no acute issues.
   Monitor however low likelihood of contribution to fevers
   - Could consider HIDA in the future
   # Hypernatremia: Resolved
   #[**Last Name (un) **]:  Unknown baseline, but Cr at presentation 4.5, now down to 0.4.
   Likely pre-renal hypoperfusion as improved with improved BP and IVF.
   # Sedation : Propofol gtt for now
   - will check TG
   # High residuals: Start erythromycin 250mg IV, ECG without evidence of
   QT prolongation
   #. Hypocalcemia: Ionized 0.83.  Likely immobility and Vit D def
   - check Vit D and treat if low
   - will replete Ca
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2179-12-22**] 11:14 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2179-12-20**] 01:47 PM
   Multi Lumen - [**2179-12-20**] 04:35 PM
   20 Gauge - [**2179-12-22**] 12:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2179-12-23 11:32:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Woken up this am, and agreed to back pain.
   Suctioned every 2-3 hours.
   Lost her arterial line this am.
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2179-12-21**] 05:23 AM
   Levofloxacin - [**2179-12-22**] 08:18 PM
   Erythromycin - [**2179-12-23**] 12:09 AM
   Vancomycin - [**2179-12-23**] 09:14 AM
   Infusions:
   Vasopressin - 1.8 units/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-23**] 09:14 AM
   Other medications:
   peridex, heparin 500 s/c q8, pepcid, levofloxacin 750 daily, fentanyl
   drop, reglan, atrovent inhalers, vanoc 1250 q12, nicotine patch,
   erythromycin, fentanyl patch, propfol at 40mcg/hr.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-23**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 57 (52 - 90) bpm
   BP: 84/40(51) {84/40(51) - 114/55(70)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 10 (8 - 14)mmHg
   Total In:
                                                                  3,807 mL
                                                                  1,638 mL
   PO:
   TF:
                                                                  1,207 mL
                                                                    465 mL
   IVF:
                                                                  2,160 mL
                                                                  1,113 mL
   Blood products:
   Total out:
                                                                  6,080 mL
                                                                  1,460 mL
   Urine:
                                                                  6,080 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,273 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (374 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: 7.51/47/61/33/12
   Ve: 9.4 L/min
   PaO2 / FiO2: 122
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   528 K/uL
   155 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.6 mEq/L
   10 mg/dL
   95 mEq/L
   136 mEq/L
   25.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2179-12-21**]  05:47 AM
                             [**2179-12-21**]  10:10 AM
                             [**2179-12-22**]  04:51 AM
                             [**2179-12-22**]  05:06 AM
                             [**2179-12-22**]  10:30 AM
                             [**2179-12-22**]  06:00 PM
                             [**2179-12-22**]  06:25 PM
                             [**2179-12-23**]  12:24 AM
                             [**2179-12-23**]  05:07 AM
                             [**2179-12-23**]  05:11 AM
   WBC
   16.5
   14.1
   Hct
   29.4
   25.1
   Plt
   559
   528
   Cr
   0.4
   0.4
   0.3
   TCO2
   35
   36
   35
   29
   40
   36
   39
   Glucose
   170
   155
   Other labs: PT / PTT / INR:12.2/29.0/1.0, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:81.6 %,
   Band:0.0 %, Lymph:13.6 %, Mono:3.1 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.0 mg/dL
   Imaging: CXR: not obtained. ordered now.
   Microbiology: micro data blood cultures
   urine yeast
   sputum with yeast
   Assessment and Plan
 ALTERATION IN NUTRITION: tube feeds.
 SHOCK, SEPTIC: reamins on vasopressin. replace a-line today.
 PNEUMONIA, OTHER: continue levofloxacin.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**]):
   Will resume diuresis, diamox 250mg iv bid for alkalosis goal CVP <4.
   wean FiO1 and PEEP as tolerated. Would perform RSBI this am.
 ELECTROLYTE & FLUID DISORDER, OTHER; agressive repletion of K goal K
   4.0, Mag, and calcium with diuresis.
 Back pain: will increased fentanyl patch, will obtain MRI to rule out
   epidural abscess.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-20**] 04:35 PM
   20 Gauge - [**2179-12-22**] 12:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following emphasis/medications:
   Overnight, stopped lasix because of alkalosis; when awoke from sedation
   this morning, she complained of back pain again
   T 37.7   P 90s   BP 100/70  RR 16  SpO2: 94%
   Gen: Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: +1 edema
   Labs: as above
   Assessment:
   1)       Acute Respiratory Failure secondary to pneumonia/ards and now
   pulmonary edema
   2)       Pneumonia
   3)       Sepsis
   4)       Hypotension: remains on small dose of vasopression which could
   be related to propofol for sedation or lingering poor vascular tone
   from sepsis, or possibly relative adrenal insufficiency
   5)       Back Pain: complains of back pain upon awakening for second
   day in a row.  Family relates complaining of back pain before she was
   admitted as well
   6)       Acute Renal Failure
 resolved
   Plan:
   1)       Re-start lasix and try to diurese to assist in wean
   2)       Continue antibiotics
   3)       Given the persistent back pain, the bacteremia, the prolonged
   febrile phase, and the prolonged poor vasomotor tone, I am concerned
   that there could be an epidural abscess which may have occurred from
   secondary seeding from strep.  Therefore, will obtain MRI of back
   4)       Check cortisol level
   Time Spent: 35 minutes
   Patient is Critically Ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2179-12-23**] 04:12 PM ------

2179-12-24 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2179-12-23**] 09:12 AM
 SPUTUM CULTURE - At [**2179-12-23**] 12:58 PM
 ARTERIAL LINE - START [**2179-12-23**] 02:32 PM
 SPUTUM CULTURE - At [**2179-12-24**] 12:19 AM
   [**12-23**]
   - aline was replaced
   - restarted lasix gtt at 2 and then increased to 5mg/hr. She was even
   at midnight, but UOP increased after lasix gtt increased (avg
   260cc/hr). Called pharmacy to try and concentrate all of her meds.
   - Respiratory status was dynamic thoughout the day. We were able to
   wean down to FiO2 40%
   - Random Cortisol was check and was 26
   - given no improvement in CXR and increased secreations. Abx were
   changed. Levoflox was changed to Meropenem.  Will need to monitor of
   rash
   - concern given patient's back pain, ordered for MR T/L/S spine to r/o
   epidural abscess.
   - pt with high residuals and had to hold TF this AM
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2179-12-22**] 08:18 PM
   Vancomycin - [**2179-12-23**] 08:46 PM
   Erythromycin - [**2179-12-24**] 12:35 AM
   Meropenem - [**2179-12-24**] 04:13 AM
   Infusions:
   Vasopressin - 1.8 units/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2179-12-23**] 06:41 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-24**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 67 (51 - 89) bpm
   BP: 143/74(100) {88/43(58) - 171/88(121)} mmHg
   RR: 15 (9 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 25 (4 - 25)mmHg
   Total In:
                                                                  3,168 mL
                                                                  1,133 mL
   PO:
   TF:
                                                                    818 mL
                                                                    177 mL
   IVF:
                                                                  2,188 mL
                                                                    677 mL
   Blood products:
                                                                     71 mL
                                                                    279 mL
   Total out:
                                                                  3,580 mL
                                                                  1,970 mL
   Urine:
                                                                  3,310 mL
                                                                  1,970 mL
   NG:
   Stool:
                                                                    270 mL
   Drains:
   Balance:
                                                                   -412 mL
                                                                   -837 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 575 (438 - 575) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.43/48/73.[**Numeric Identifier 252**]/30/6
   Ve: 7.2 L/min
   PaO2 / FiO2: 183
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   522 K/uL
   9.3 g/dL
   108 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   11 mg/dL
   95 mEq/L
   132 mEq/L
   27.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2179-12-22**]  06:25 PM
                             [**2179-12-23**]  12:24 AM
                             [**2179-12-23**]  05:07 AM
                             [**2179-12-23**]  05:11 AM
                             [**2179-12-23**]  03:26 PM
                             [**2179-12-23**]  05:25 PM
                             [**2179-12-23**]  05:39 PM
                             [**2179-12-24**]  01:41 AM
                             [**2179-12-24**]  03:15 AM
                             [**2179-12-24**]  04:26 AM
   WBC
   14.1
   11.6
   Hct
   25.1
   25.6
   27.8
   Plt
   528
   522
   Cr
   0.3
   0.4
   0.4
   TCO2
   40
   36
   39
   35
   37
   34
   33
   Glucose
   155
   179
   108
   Other labs: PT / PTT / INR:11.8/29.0/1.0, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:81.6 %,
   Band:0.0 %, Lymph:13.6 %, Mono:3.1 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS/Pneumonia:  CXR with multifocal opacities, patient with
   severe hypoxia refractory to initial ventilator settings.  Clinical
   story, CXR, and oxygenation c/w ARDS.  Most likely [**12-28**] Strep Pneumo as
   grown on OSH blood cultures. Influenza negative from State Lab.  Pt
   initially appeared volume overloaded and felt this may be contributing
   to hypoxia.
   - Diuresis effective, patient today is 10L up from admission (max LOS
   was 19L)
   - pt was diuresed on a lasix gtt with good urine output. Her FiO2 was
   weaned down to 50% which is an improvement from prior
   - Able to wean down FiO2 to 40% , currently attempting SBT with RSBI
   less than 100
   - Attempt extubation today
   - Restart Lasix gtt given very fluid overloaded, will add Diamox given
   alkalosis, target CVP 4
   - Blood cultures w/ strep pneumo, pan sensitive per OSH sensitivities
   - Changed abx to Vanc and Meropenem given persistant secretions
   - Repeat CXR daily
   - RSBI
   #Hypotension- Presumed secondary to infection; but sedation and lasix
   gtt may contribute. Have broadened coverage to Meropenem as above;
   additionally concern for ? epidural abscess given back pain prior to
   presentation which was new
   - Ordered MRI T/L spine
   - Vasporessin prn
   - Goal MAP>60
   # Fever: Afebrile for > 48 hrs. Femoral A-line pulled and CVL resited
   as possible sources of infection. Most likely fever due to known strep
   bactermia, given back pain concerning for epidural abscess
   - LFTs, amylase/lipase and negative diff for eosinophilia makes drug
   reaction unlikely
   - Vanc / Meropenem (Meropenem started [**12-23**])
   - LENI negative
   #Back Pain- Per family pt complained of back pain 5 days prior to
   admission; concern given infection/hypotension
   - MRI as above
   - Pain control with Fentanyl patch
   # Anemia: Stable, likely dilutional in setting of massive volume
   overload.
   - Improving over past few days; continue to trend
   # Cholelithiasis:  Per Gen surgery has seen pt, no acute issues.
   Monitor however low likelihood of contribution to fevers
   # Hypernatremia: Resolved
   #[**Last Name (un) **]:  Unknown baseline, but Cr at presentation 4.5, now down to 0.4.
   Likely pre-renal hypoperfusion as improved with improved BP and IVF.
   # Sedation : Propofol gtt for now
   - will check TG today
   # High residuals: Continue erythromycin 250mg IV, ECG without evidence
   of QT prolongation
   #. Hypocalcemia: Ionized 1.15, most likely due to aggressive diuresis
   - check Vit D and treat if low
   - will replete Ca prn
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, SEPTIC
 PNEUMONIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition: Tube feeds, not at goal [**12-28**] high residuals, IV erythromycin
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-20**] 04:35 PM
   20 Gauge - [**2179-12-22**] 12:39 PM
   Arterial Line - [**2179-12-23**] 02:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-12-24 10:16:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2179-12-23**] 09:12 AM
 SPUTUM CULTURE - At [**2179-12-23**] 12:58 PM
 ARTERIAL LINE - START [**2179-12-23**] 02:32 PM
 SPUTUM CULTURE - At [**2179-12-24**] 12:19 AM
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2179-12-22**] 08:18 PM
   Erythromycin - [**2179-12-24**] 12:35 AM
   Meropenem - [**2179-12-24**] 04:13 AM
   Vancomycin - [**2179-12-24**] 07:54 AM
   Infusions:
   Vasopressin - 1.8 units/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 4 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2179-12-23**] 06:41 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-24**] 08:22 AM
   Other medications:
   chlorhexidine, heaprin s/c, pepcid, colace, reglan, albuterol, atrovent
   MDI, vancomycin, nicotine patch, erythromycin, propofol drip, fentanyl
   drip, acetazolamide, insulin sliding scale, meropenem, lasix drip,
   4mg/hr, vasopressin, folic acid, thiamine.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-24**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 57 (51 - 87) bpm
   BP: 94/56(71) {88/43(58) - 171/88(121)} mmHg
   RR: 12 (9 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
   CVP: 13 (4 - 25)mmHg
   Total In:
                                                                  3,168 mL
                                                                  1,374 mL
   PO:
   TF:
                                                                    818 mL
                                                                    177 mL
   IVF:
                                                                  2,188 mL
                                                                    918 mL
   Blood products:
                                                                     71 mL
                                                                    279 mL
   Total out:
                                                                  3,580 mL
                                                                  2,510 mL
   Urine:
                                                                  3,310 mL
                                                                  2,510 mL
   NG:
   Stool:
                                                                    270 mL
   Drains:
   Balance:
                                                                   -412 mL
                                                                 -1,136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (450 - 575) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: 7.43/48/73.[**Numeric Identifier 252**]/30/6
   Ve: 8 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   522 K/uL
   108 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   11 mg/dL
   95 mEq/L
   132 mEq/L
   27.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2179-12-22**]  06:25 PM
                             [**2179-12-23**]  12:24 AM
                             [**2179-12-23**]  05:07 AM
                             [**2179-12-23**]  05:11 AM
                             [**2179-12-23**]  03:26 PM
                             [**2179-12-23**]  05:25 PM
                             [**2179-12-23**]  05:39 PM
                             [**2179-12-24**]  01:41 AM
                             [**2179-12-24**]  03:15 AM
                             [**2179-12-24**]  04:26 AM
   WBC
   14.1
   11.6
   Hct
   25.1
   25.6
   27.8
   Plt
   528
   522
   Cr
   0.3
   0.4
   0.4
   TCO2
   40
   36
   39
   35
   37
   34
   33
   Glucose
   155
   179
   108
   Other labs: PT / PTT / INR:11.8/29.0/1.0, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:81.6 %,
   Band:0.0 %, Lymph:13.6 %, Mono:3.1 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL,
   PO4:5.0 mg/dL
   Imaging: CXR: improved bilateral infiltrates worse on the Right, tubes
   and lines in good position.
   Microbiology: sputum with 2+ budding yeast
   central line no growth
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): d/c fentanyl drip, continue
   patch.
 ALTERATION IN NUTRITION: tube feeds on hold, will place NG tube on
   suction as she had had 50cc of bilious return.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): low dose vasopressin due to
   sedation and diuresis.
 PNEUMONIA, OTHER: broadened antibiotic coverage overnight, will
   follow sputum cultures.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**]):
   doing well on SBT will extubate after d/c of all sedation.
   Rest of Plan per HO team.
   ICU Care
   Nutrition:
   Comments: on hold for extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-20**] 04:35 PM
   20 Gauge - [**2179-12-22**] 12:39 PM
   Arterial Line - [**2179-12-23**] 02:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, continue to wean oxygen
   Vitals as above
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NTND
   Extr: trace edema
 remarkably improved
   Labs: as above
   Assessment:
   1)       Acute Respiratory Failure
   2)       Strep Pneumonia with probable superimposed VAP
   3)       Sepsis
   4)       Severe back pain: continues to complain of significant pain
   every time sedation lifted
   Plan:
   1)       Continue antibiotics
   2)       Continue CPAP -> SBT
   3)       MRI to rule out epidural abscess
   4)       Continue diuresis
   Time Spent: 45 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2179-12-24**] 05:34 PM ------

2179-12-25 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Held off on extubation as patient w/ongoing back pain when sedation
   lightened; so opted to get MRI while able to sedate
   -Continued vasopressin when on propofol b/c BP remains low w/sedation
   -MRI:prelim neg for abscess; need to follow up final read
   -[**12-23**] sputum culture: yeast
   -Lasix gtt turned off briefly overnight b/c -3Liters
   6am: turned off propofol, off vasopressin this AM (intermittently
   required overnight)- SBT this AM/RSBI
 MAGNETIC RESONANCE IMAGING - At [**2179-12-24**] 03:34 PM
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2179-12-22**] 08:18 PM
   Vancomycin - [**2179-12-24**] 08:00 PM
   Erythromycin - [**2179-12-25**] 12:47 AM
   Meropenem - [**2179-12-25**] 05:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-25**] 12:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-25**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 61 (57 - 98) bpm
   BP: 89/56(72) {86/48(68) - 155/97(109)} mmHg
   RR: 16 (9 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 8 (8 - 25)mmHg
   Total In:
                                                                  2,423 mL
                                                                    398 mL
   PO:
   TF:
                                                                    194 mL
                                                                     64 mL
   IVF:
                                                                  1,950 mL
                                                                    334 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  6,570 mL
                                                                  3,550 mL
   Urine:
                                                                  6,570 mL
                                                                  3,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,147 mL
                                                                 -3,152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 483 (483 - 576) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.45/38/69/24/2
   Ve: 6.5 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Intubated, sedated
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Rhonchorus
   : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Sedated, Tone: Not assessed, follows simple commands
   Labs / Radiology
   662 K/uL
   10.1 g/dL
   97 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.1 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   30.3 %
   13.5 K/uL
        [image002.jpg]
                             [**2179-12-23**]  05:11 AM
                             [**2179-12-23**]  03:26 PM
                             [**2179-12-23**]  05:25 PM
                             [**2179-12-23**]  05:39 PM
                             [**2179-12-24**]  01:41 AM
                             [**2179-12-24**]  03:15 AM
                             [**2179-12-24**]  04:26 AM
                             [**2179-12-24**]  11:57 AM
                             [**2179-12-24**]  07:58 PM
                             [**2179-12-25**]  04:18 AM
   WBC
   11.6
   13.5
   Hct
   25.6
   27.8
   30.3
   Plt
   522
   662
   Cr
   0.4
   0.4
   0.4
   TCO2
   39
   35
   37
   34
   33
   32
   27
   Glucose
   179
   108
   97
   Other labs: PT / PTT / INR:11.8/29.0/1.0, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:81.6 %,
   Band:0.0 %, Lymph:13.6 %, Mono:3.1 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS/Pneumonia:  ARDS on admission (CXR with multifocal
   opacities, patient with severe hypoxia refractory to initial ventilator
   settings). Now resolving pulmonary edema from aggressive volume
   resuscitation
   - Diuresis effective, patient today is 6L up from admission (max LOS
   was 19L)
   - SBT/RSBI this AM
   - Attempt extubation today
   - Continue Lasix gtt however will likely stop after extubation as she
   is only 3L up from admission, close to her insensible losses
   - stop acetazolamide
   - Blood cultures w/ strep pneumo, pan sensitive per OSH sensitivities
   - Stop  Vanc and Meropenem, change to Levoflox  x 14 day total course
   - Repeat CXR daily
   #Hypotension- Presumed secondary to infection; but sedation and lasix
   gtt may contribute. Have broadened coverage to Meropenem as above;
   additionally concern for ? epidural abscess given back pain prior to
   presentation which was new
   No evidence of abscess on MRI; need to follow up final read
   - Before restarting Vasporessin will stop lasix drip
   -Goal to extubate and d/c sedation
   - Goal MAP>60
   # Fever: Afebrile for 24  hrs. Femoral A-line pulled and CVL resited as
   possible sources of infection. Most likely fever due to known strep
   bactermia, given back pain concerning for epidural abscess
   - LFTs, amylase/lipase and negative diff for eosinophilia makes drug
   reaction unlikely
   - Complete course with levoflox
   - LENI negative
   - Prelim MRI neg
   #Back Pain- Per family pt complained of back pain 5 days prior to
   admission; concern given infection/hypotension
   - MRI as above
   - Pain control with Fentanyl patch
   # Anemia: Stable, likely dilutional in setting of massive volume
   overload.
   - Improving over past few days; continue to trend
   # Cholelithiasis:  Per Gen surgery has seen pt, no acute issues.
   Monitor however low likelihood of contribution to fevers
   # Hypernatremia: Resolved.
   # High residuals: Continue erythromycin 250mg IV, ECG without evidence
   of QT prolongation
   #. Hypocalcemia: Ionized 1.15, most likely due to aggressive diuresis
   - check Vit D and treat if low
   - will replete Ca prn
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, SEPTIC
 PNEUMONIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2179-12-24**] 10:17 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-20**] 04:35 PM
   Arterial Line - [**2179-12-23**] 02:32 PM
   20 Gauge - [**2179-12-24**] 02:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blcoker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-12-25 09:45:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2179-12-24**] 03:34 PM Negative by
   preliminary read.
Did well on SBT this am, with RSBI of 47.
Temperature to 100.9.
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2179-12-22**] 08:18 PM
   Erythromycin - [**2179-12-25**] 12:47 AM
   Meropenem - [**2179-12-25**] 05:07 AM
   Vancomycin - [**2179-12-25**] 08:13 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-25**] 08:13 AM
   Other medications:
   colace, reglan, albuterol, atrovent, free water flushed, vancomycin iv
   q12, nicotine patch, erythromycin, lasix drip, fentanyl patch 50mcg,
   acetazolamide, insulin sliding scale, meropenem, vasopressin off, folic
   acid, thiamine.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-25**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.2
   HR: 97 (58 - 98) bpm
   BP: 138/74(100) {86/48(68) - 155/97(109)} mmHg
   RR: 15 (9 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 8 (8 - 25)mmHg
   Total In:
                                                                  2,423 mL
                                                                    527 mL
   PO:
   TF:
                                                                    194 mL
                                                                     40 mL
   IVF:
                                                                  1,950 mL
                                                                    487 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  6,570 mL
                                                                  4,410 mL
   Urine:
                                                                  6,570 mL
                                                                  4,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,147 mL
                                                                 -3,883 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 440 (440 - 576) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.46/40/86.[**Numeric Identifier 253**]/24/4
   Ve: 8.8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   662 K/uL
   97 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.1 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   30.3 %
   13.5 K/uL
        [image002.jpg]
                             [**2179-12-23**]  05:25 PM
                             [**2179-12-23**]  05:39 PM
                             [**2179-12-24**]  01:41 AM
                             [**2179-12-24**]  03:15 AM
                             [**2179-12-24**]  04:26 AM
                             [**2179-12-24**]  11:57 AM
                             [**2179-12-24**]  07:58 PM
                             [**2179-12-25**]  04:18 AM
                             [**2179-12-25**]  06:45 AM
                             [**2179-12-25**]  08:01 AM
   WBC
   11.6
   13.5
   Hct
   25.6
   27.8
   30.3
   Plt
   522
   662
   Cr
   0.4
   0.4
   0.4
   TCO2
   37
   34
   33
   32
   27
   29
   29
   Glucose
   179
   108
   97
   Other labs: PT / PTT / INR:11.8/29.0/1.0, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:81.6 %,
   Band:0.0 %, Lymph:13.6 %, Mono:3.1 %, Eos:1.2 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.5 mg/dL
   Imaging: CXR much improved
   Microbiology: negative to date
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): fentanyl patch
 ALTERATION IN NUTRITION: d/c reglan, continue erythromcyin, check
   QTc.
 PNEUMONIA, OTHER: much improved, doing well on SBt with excellent
   gas, has some secretions but able to cough forcefully. repeat culture
   data negative to date. d/c vanco and meropenem.. resume levofloxacin
   for 14day course.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER: continue to replete electrolytes
   , continue low dose lasix drip. d/c acetazolamide
Fever: recurrent and low grade, wbc increasing will obtain diff,
   concerning for drug fever as she was restarted on meropenem.
Back pain: continue fentany llpatch, r/a after extubation. and follow
   up MRI final read.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-20**] 04:35 PM
   Arterial Line - [**2179-12-23**] 02:32 PM
   20 Gauge - [**2179-12-24**] 02:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Temp 100.9
   Well nourished, No acute distress
   CV
 RRR
   Lungs- rhonchi
   Abd soft NTND BS+
   Labs: as above
   Strep Pneumonia/Sepsis
   -hemodynamically stable
   Acute resp failure
   -SBT assess for extubation
   Back pain
   -better hx after extubation
   -MRI
 prelim read no epidural abscess
   Fluid status
   -cont diuresis
   Remainder of plan per resident & fellow note.
   Time Spent: 32 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2179-12-25**] 14:25 ------

2179-12-26 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2179-12-25**] 09:53 AM
 SPUTUM CULTURE - At [**2179-12-25**] 10:30 AM
 ARTERIAL LINE - STOP [**2179-12-26**] 05:45 AM
   - Extubated early in the day
   - Increasing secretions, agressive chest PT / nebs
   - Scheduled tylenol for back pain
   - improving mental status
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2179-12-25**] 08:13 AM
   Meropenem - [**2179-12-25**] 10:04 AM
   Levofloxacin - [**2179-12-25**] 11:32 AM
   Erythromycin - [**2179-12-25**] 01:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-25**] 04:11 PM
   Morphine Sulfate - [**2179-12-25**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-26**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 73 (73 - 97) bpm
   BP: 111/55(67) {97/46(58) - 133/79(92)} mmHg
   RR: 17 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    982 mL
                                                                    167 mL
   PO:
             TF:
                                                                     40 mL
   IVF:
                                                                    942 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  6,950 mL
                                                                    640 mL
   Urine:
                                                                  6,950 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,968 mL
                                                                   -473 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (440 - 440) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 70%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.44/36/71/20/0
   Ve: 8.8 L/min
   PaO2 / FiO2: 71
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   699 K/uL
   10.4 g/dL
   88 mg/dL
   0.4 mg/dL
   20 mEq/L
   4.2 mEq/L
   14 mg/dL
   109 mEq/L
   143 mEq/L
   33.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2179-12-24**]  07:58 PM
                             [**2179-12-25**]  04:18 AM
                             [**2179-12-25**]  06:45 AM
                             [**2179-12-25**]  08:01 AM
                             [**2179-12-25**]  09:34 AM
                             [**2179-12-25**]  12:42 PM
                             [**2179-12-25**]  02:30 PM
                             [**2179-12-25**]  06:34 PM
                             [**2179-12-26**]  04:13 AM
                             [**2179-12-26**]  04:26 AM
   WBC
   13.5
   13.0
   Hct
   30.3
   33.0
   Plt
   662
   699
   Cr
   0.4
   0.4
   0.4
   TCO2
   27
   29
   29
   29
   27
   28
   25
   Glucose
   97
   101
   88
   Other labs: PT / PTT / INR:12.6/25.2/1.1, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:84.8 %,
   Band:0.0 %, Lymph:8.9 %, Mono:5.4 %, Eos:0.7 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS/Pneumonia:  ARDS on admission (CXR with multifocal
   opacities, patient with severe hypoxia refractory to initial ventilator
   settings). Now resolving pulmonary edema from aggressive volume
   resuscitation
   - Diuresis effective, paieitn close to euvolemic at this time (max LOS
   was 19L)
   - Continue Lasix gtt however will likely stop after extubation as she
   is only 3L up from admission, close to her insensible losses
   - Blood cultures w/ strep pneumo, pan sensitive per OSH sensitivities
   - Stop  Vanc and Meropenem, change to Levoflox  x 14 day total course
   - Repeat CXR daily
   - aggressive chest PT / nebs / mucomyst
   #Hypotension- Presumed secondary to infection; but sedation and lasix
   gtt may contribute. Have broadened coverage to Meropenem as above;
   additionally concern for ? epidural abscess given back pain prior to
   presentation which was new
   No evidence of abscess on MRI; need to follow up final read
   - Before restarting Vasporessin will stop lasix drip
   -Goal to extubate and d/c sedation
   - Goal MAP>60
   # Fever: Afebrile for 24  hrs. Femoral A-line pulled and CVL resited as
   possible sources of infection. Most likely fever due to known strep
   bactermia, given back pain concerning for epidural abscess
   - LFTs, amylase/lipase and negative diff for eosinophilia makes drug
   reaction unlikely
   - Complete course with levoflox
   - LENI negative
   - Prelim MRI neg
   #Back Pain- Per family pt complained of back pain 5 days prior to
   admission; concern given infection/hypotension
   - MRI as above
   - Pain control with Fentanyl patch / Lidocaine patch
   # Anemia: Stable, likely dilutional in setting of massive volume
   overload.
   - Improving over past few days; continue to trend
   # Cholelithiasis:  Per Gen surgery has seen pt, no acute issues.
   Monitor however low likelihood of contribution to fevers
   # Hypernatremia: Resolved.
   # High residuals: Continue erythromycin 250mg IV, ECG without evidence
   of QT prolongation
   #. Hypocalcemia: Ionized 1.15, most likely due to aggressive diuresis
   - check Vit D and treat if low
   - will replete Ca prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-20**] 04:35 PM
   20 Gauge - [**2179-12-24**] 02:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-12-26 10:41:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2179-12-25**] 09:53 AM
 SPUTUM CULTURE - At [**2179-12-25**] 10:30 AM
 ARTERIAL LINE - STOP [**2179-12-26**] 05:45 AM
   O2 requirement decreased significantly with chest PT.
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2179-12-25**] 08:13 AM
   Meropenem - [**2179-12-25**] 10:04 AM
   Levofloxacin - [**2179-12-25**] 11:32 AM
   Erythromycin - [**2179-12-25**] 01:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2179-12-25**] 06:20 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-26**] 08:03 AM
   Other medications:
   heparin s/c, famotidine, colace, nicotine patch, erythromycin, folic
   acid, thiamine, levofloxacin, lidocaine patch, fentanyl patch, tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-26**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (97
   HR: 73 (73 - 103) bpm
   BP: 121/58(73) {97/46(58) - 133/79(92)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    982 mL
                                                                    434 mL
   PO:
             240 mL
   TF:
                                                                     40 mL
   IVF:
                                                                    942 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  6,950 mL
                                                                    810 mL
   Urine:
                                                                  6,950 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,968 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.44/36/71/20/0
   PaO2 / FiO2: 71
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : right
   lung field)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   699 K/uL
   88 mg/dL
   0.4 mg/dL
   20 mEq/L
   4.2 mEq/L
   14 mg/dL
   109 mEq/L
   143 mEq/L
   33.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2179-12-24**]  07:58 PM
                             [**2179-12-25**]  04:18 AM
                             [**2179-12-25**]  06:45 AM
                             [**2179-12-25**]  08:01 AM
                             [**2179-12-25**]  09:34 AM
                             [**2179-12-25**]  12:42 PM
                             [**2179-12-25**]  02:30 PM
                             [**2179-12-25**]  06:34 PM
                             [**2179-12-26**]  04:13 AM
                             [**2179-12-26**]  04:26 AM
   WBC
   13.5
   13.0
   Hct
   30.3
   33.0
   Plt
   662
   699
   Cr
   0.4
   0.4
   0.4
   TCO2
   27
   29
   29
   29
   27
   28
   25
   Glucose
   97
   101
   88
   Other labs: PT / PTT / INR:12.6/25.2/1.1, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:84.8 %,
   Band:0.0 %, Lymph:8.9 %, Mono:5.4 %, Eos:0.7 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.2
   mg/dL
   Imaging: MRI: mild degenerative changes, bulging of the disk L5-S1with
   mild-moderate narrowing of the left foramena.
   Microbiology: yeast in the sputum.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN): continue fentanyl and lidocaine. will
   consult PT.
 ALTERATION IN NUTRITION; s/c erythromcyin
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): resolved.
 PNEUMONIA, OTHER: day [**10-8**] of levofloxacin.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**]):
   continue with aggressive chest PT, she continue to autodiurese. Will
   keep her in the unit for continue chest PT. But can move if we are in
   need for beds.
 ELECTROLYTE & FLUID DISORDER, OTHER: autodiuresing continue
   electrolyte repletion.
 GI: add dulcolax, and miralax prn.
Sleep: start low dose ambien. for sleep.
Access: d/c central line. Place another peripheral line.
   ICU Care
   Nutrition:
   Comments: soft diet.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-12-20**] 04:35 PM
   20 Gauge - [**2179-12-24**] 02:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   ------ Protected Section ------
   ICU Attending Coverage
   I saw and examined the patient with the pulmonary fellow, assessment
   and plan discussed in detail.  I would emphasize the following.
   Secretions continue to be an issue post-extubation requiring aggressive
   chest PT and pulmonary toilet.  Able to wean Fi02 to 3 L NC.
   Defervesced, ? drug fever. Patient is also autodiuresing. Adequate air
   movement bilaterally, occasional rhonchi.  Generalized weakness on
   exam.
   PT to consult.
   Agree with keeping patient in the ICU given tenuous respiratory
   status.
   Time spent:  30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2179-12-26**] 13:26 ------

2179-12-27 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2179-12-26**] 09:48 PM
   -Spiked 100.5 overnight
   - UA negative
   - pt hypoxic to 88-90% on 4L NC.  Restarted lasix gtt briefly with goal
   negative 500cc. Incentive spirometry and chest PT.  CXR looked better
   then yesterday.  O2 sats improved to >93%
   - pt with temp to 100.5. Sent BCx. UA and CXR unremarkable
   - d/c left IJ and sent for culture
   - Pt lasix gtt stopped at around 3am due to hypotension with SBP high
   80's. She was neg 379 at midnight and another 300 this AM.
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2179-12-25**] 08:13 AM
   Meropenem - [**2179-12-25**] 10:04 AM
   Levofloxacin - [**2179-12-26**] 12:00 PM
   Erythromycin - [**2179-12-27**] 12:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-27**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-27**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 83 (67 - 103) bpm
   BP: 104/44(70) {89/37(50) - 129/66(82)} mmHg
   RR: 23 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,266 mL
                                                                    223 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    546 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    550 mL
   Urine:
                                                                  1,645 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -379 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Crackles bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No LE edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   620 K/uL
   11.1 g/dL
   98 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   11 mg/dL
   103 mEq/L
   139 mEq/L
   33.2 %
   12.6 K/uL
        [image002.jpg]
                             [**2179-12-25**]  04:18 AM
                             [**2179-12-25**]  06:45 AM
                             [**2179-12-25**]  08:01 AM
                             [**2179-12-25**]  09:34 AM
                             [**2179-12-25**]  12:42 PM
                             [**2179-12-25**]  02:30 PM
                             [**2179-12-25**]  06:34 PM
                             [**2179-12-26**]  04:13 AM
                             [**2179-12-26**]  04:26 AM
                             [**2179-12-27**]  05:04 AM
   WBC
   13.5
   13.0
   12.6
   Hct
   30.3
   33.0
   33.2
   Plt
   [**Telephone/Fax (3) 11248**]
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   29
   29
   27
   28
   25
   Glucose
   97
   101
   88
   98
   Other labs: PT / PTT / INR:12.6/25.2/1.1, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:66.6 %,
   Band:0.0 %, Lymph:26.0 %, Mono:5.1 %, Eos:1.9 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, SEPTIC
 PNEUMONIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
   The patient is a 58 year old female who presented with complaints of
   cough/fever/malaise, found to be hypotensive and hypoxic, now with
   ARDS.
   # Hypoxia/ARDS/Pneumonia:  ARDS on admission (CXR with multifocal
   opacities, patient with severe hypoxia refractory to initial ventilator
   settings). Now resolving pulmonary edema from aggressive volume
   resuscitation
   - Diuresis effective, patient close to euvolemic at this time (max LOS
   was 19L)
   - Continue Lasix gtt however will likely stop after extubation as she
   is only 3L up from admission, close to her insensible losses
   - Blood cultures w/ strep pneumo, pan sensitive per OSH sensitivities
   - Stop  Vanc and Meropenem, change to Levoflox  x (day [**10-8**]) day total
   course
   - Repeat CXR daily
   - aggressive chest PT / nebs / mucomyst
   - Atrovent nebs
   #Hypotension- Resolved. Unclear if related to lasix gtt and got ambient
   overnight; improved this AM
   -Monitor closely
   - D/C Ambien
   - Check w/patients daughter re: home sleep aid
   # Fever: Low grade temp overnight,. Femoral A-line pulled and CVL
   resited as possible sources of infection. Most likely fever due to
   known strep bactermia, given back pain concerning for epidural abscess
   - LFTs, amylase/lipase and negative diff for eosinophilia makes drug
   reaction unlikely
   - Complete course with levoflox
   - LENI negative
   - MRI neg
   - U/A negative
   - F/U culture data
   #Back Pain- No evidence of epidural abscess / bone process.  Some DJD
   at L5/S1
   - MRI as above
   - Pain control with Fentanyl patch / Lidocaine patch
   - PRN Oxycodone this AM
   # Anemia: Stable, likely dilutional in setting of massive volume
   overload.
   - Improving over past few days; continue to trend
   # Cholelithiasis:  Per Gen surgery has seen pt, no acute issues.
   Monitor however low likelihood of contribution to fevers
   # Hypernatremia: Resolved.
   # High residuals: PO nutrition now
   #. Hypocalcemia: Resolved
   ICU Care
   Nutrition: PO Nutrition
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-12-26**] 09:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  not needed
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2179-12-27 09:57:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 MULTI LUMEN - STOP [**2179-12-26**] 09:48 PM
   Hypoxic slightly overnight responded to some diuresis and chest PT, now
   on 3L sat 94%. BP borderline at SBP in the 80-90s recovered after lasix
   drip was stopped. Brief temp to 100.5, recheck was afebrile, blood
   cultures drawn, CVC was removed and tip sent for culture.
   Allergies:
   Peanut
   Anaphylaxis;
   Penicillins
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2179-12-25**] 08:13 AM
   Meropenem - [**2179-12-25**] 10:04 AM
   Levofloxacin - [**2179-12-26**] 12:00 PM
   Erythromycin - [**2179-12-27**] 12:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-27**] 08:08 AM
   Other medications:
   heparin s/c tid, famotidine, colace, nicotine patch, erythromycin iv
   q12, fentanyl patch, lasix drip, folic acid, levofloxacin 750 iv q24,
   [**Year (4 digits) 11256**] patch, tylenol, atrovent q6, ambien.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-27**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 86 (67 - 101) bpm
   BP: 141/50(72) {89/37(50) - 141/73(90)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,266 mL
                                                                    494 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    546 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    810 mL
   Urine:
                                                                  1,645 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -379 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles :
   bilateral bases R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   620 K/uL
   98 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   11 mg/dL
   103 mEq/L
   139 mEq/L
   33.2 %
   12.6 K/uL
        [image002.jpg]
                             [**2179-12-25**]  04:18 AM
                             [**2179-12-25**]  06:45 AM
                             [**2179-12-25**]  08:01 AM
                             [**2179-12-25**]  09:34 AM
                             [**2179-12-25**]  12:42 PM
                             [**2179-12-25**]  02:30 PM
                             [**2179-12-25**]  06:34 PM
                             [**2179-12-26**]  04:13 AM
                             [**2179-12-26**]  04:26 AM
                             [**2179-12-27**]  05:04 AM
   WBC
   13.5
   13.0
   12.6
   Hct
   30.3
   33.0
   33.2
   Plt
   [**Telephone/Fax (3) 11248**]
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   29
   29
   27
   28
   25
   Glucose
   97
   101
   88
   98
   Other labs: PT / PTT / INR:12.6/25.2/1.1, ALT / AST:17/27, Alk Phos / T
   Bili:107/0.3, Amylase / Lipase:74/83, Differential-Neuts:66.6 %,
   Band:0.0 %, Lymph:26.0 %, Mono:5.1 %, Eos:1.9 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:271 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.9 mg/dL
   Imaging: CXR: stable
   Microbiology: catheter tip is pending, blood culture negative to date,
   U/A negative. Sputum with yeast.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  continue fentanyl and
   lidocain patches. related to slipped disk.
 ALTERATION IN NUTRITION: SLP consult pending, on soft diet.
 PNEUMONIA, OTHER: levofloxacin to complete 14day course.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**]):
   resolved
 ELECTROLYTE & FLUID DISORDER, OTHER: hold on further diuresis appears
   to be euvolemic.
Fever: x1, repeat wnl, will follow up cultures would not change
   antibiotic coverage at this point.
   ICU Care
   Nutrition:
   Comments: soft diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-12-26**] 09:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date. I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan. I would add/emphasize the following: stable today, up in chair
   but remains weak, Tm 99.7, probable reaction to meropenem. Overall
   excellent recovery from pneumococcal pneumonia and ARDS. No evidence of
   epidural abscess on MR. [**First Name (Titles) **] [**Last Name (Titles) 11256**] patch for back pain. Completing 14
   d course of levofloxacin. Stable to transfer to floor. Time spent 25
   minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2179-12-27**] 18:36 ------